2124-09-20 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2124-9-19**] 10:31 AM
   RUQ ultrasound
 EEG - At [**2124-9-19**] 12:32 PM
 TRANSTHORACIC ECHO - At [**2124-9-19**] 03:36 PM
 FEVER - 102.5
F - [**2124-9-19**] 07:00 PM
   - TTE: focal thickening of R coronary cusp of aortic valve w/o regurg,
   cannot exclude veg (need TEE)
   - EEG performed (no report)
   - Neuro recs: Start Kepra 500 [**Hospital1 **] x 3 d, then  Keppra 1000 [**Hospital1 **], then
   d/c Dilantin
   - Neurosurg: Head CT daily x 2 then QOD x 2 d then re-eval
   - CTH [**9-19**]: unchanged
   - Heme signed off, call with questions
   - RUQ u/s: nodular heterogenous liver, no cholecystitis
   - CT a/p: no source septic emboli
   - Corrected Dilantin 26.3, changed dose to qd
   - Bolused 500cc NS for BP 80s, decreased UOP
   Patient not responsive to questions or commands. Family at bedside
   later in the morning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-9-17**] 11:05 PM
   Metronidazole - [**2124-9-18**] 05:29 AM
   Cefipime - [**2124-9-18**] 10:00 AM
   Acyclovir - [**2124-9-18**] 10:56 AM
   Gentamicin - [**2124-9-20**] 12:40 AM
   Ampicillin - [**2124-9-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2124-9-19**] 08:00 AM
   Famotidine (Pepcid) - [**2124-9-20**] 07:30 AM
   Heparin Sodium (Prophylaxis) - [**2124-9-20**] 07:30 AM
   Other medications:
   Keppra 500 mg [**Hospital1 **] (day 2), Phenytoin 100 mg IV Q24H, Albuterol, Insulin
   SS, Tylenol, Heparin SQ TID, Chlorhexidine, Famotidine, Ativan,
   Bisacodyl
   Changes to medical and family history:
   None.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None.
   Flowsheet Data as of  [**2124-9-20**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 36.5
C (97.7
   HR: 90 (83 - 114) bpm
   BP: 121/55(76) {91/46(62) - 149/75(98)} mmHg
   RR: 30 (19 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.3 kg (admission): 58.8 kg
   Height: 65 Inch
    CVP: 7 (1 - 10)mmHg
   Total In:
                                                                  2,652 mL
                                                                  1,268 mL
   PO:
   TF:
                                                                  1,502 mL
                                                                    247 mL
   IVF:
                                                                  1,060 mL
                                                                    981 mL
   Blood products:
   Total out:
                                                                  2,226 mL
                                                                    440 mL
   Urine:
                                                                  2,226 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    426 mL
                                                                    828 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 370 (344 - 459) mL
   PS : 8 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 87
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.50/30/195/22/1
   Ve: 10.8 L/min
   PaO2 / FiO2: 488
   Physical Examination
   General: Intubated, not responsive to requests to move extremities.
   HEENT: PERRL, does not spontaneously open eyes. No scleral icterus or
   conjunctival pallor.
   Neck: C-collar in place. Some skin breakdown around collar
   Lungs: Rhonchi bilaterally, transmitted upper airway noises
   Cardiac: Regular, no murmurs/gallops/rubs
   Abd: Slightly distended, soft, +BS
   Extr: warm, edematous up to ankles.
   Neuro: PERRL, does not spontaneously open. Withdrawal L>R lower
   extremities to noxious stimuli. Hyperrelexic throughout (3+ patella).
   No response to noxious stimuli to upper extremities.
   Labs / Radiology
   77 K/uL
   7.3 g/dL
   195 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.0 mEq/L
   24 mg/dL
   121 mEq/L
   147 mEq/L
   21.2 %
   3.7 K/uL
        [image002.jpg]
                             [**2124-9-17**]  12:42 PM
                             [**2124-9-18**]  01:53 AM
                             [**2124-9-18**]  02:09 AM
                             [**2124-9-18**]  12:51 PM
                             [**2124-9-19**]  04:06 AM
                             [**2124-9-19**]  04:22 AM
                             [**2124-9-19**]  04:21 PM
                             [**2124-9-20**]  12:13 AM
                             [**2124-9-20**]  03:49 AM
                             [**2124-9-20**]  05:11 AM
   WBC
   3.7
   3.7
   3.7
   Hct
   26.0
   25.2
   21.2
   Plt
   74
   89
   77
   Cr
   0.6
   0.6
   0.6
   TCO2
   24
   22
   21
   22
   24
   24
   Glucose
   198
   207
   239
   195
   Other labs: PT / PTT / INR:18.6/46.2/1.7, CK / CKMB /
   Troponin-T:36//<0.01, ALT / AST:46/62, Alk Phos / T Bili:220/2.0,
   Amylase / Lipase:44/38, Differential-Neuts:65.5 %, Lymph:25.7 %,
   Mono:4.4 %, Eos:4.2 %, D-dimer:1729 ng/mL, Fibrinogen:310 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:2.0 g/dL, LDH:373 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:1.9 mg/dL
   [**9-19**] CT Head (Preliminary read):
   Hypoattenuating region in the left frontal lobe, and bifrontal subdural
   fluid
   collections are unchanged from one day prior on non-contrast study.
   [**9-19**] RUQ U/S: Nodular heterogenous liver is non-specific, but may be
   secondary to underlying liver disease. No evidence of cholecysitis.
   Small volume ascites
   [**9-19**] Transthoracic Echo: The left atrium is normal in size. Left
   ventricular wall thickness, cavity size and regional/global systolic
   function are normal (LVEF >55%). Right ventricular chamber size and
   free wall motion are normal. There is focal thickening of the right
   coronary cusp of the aortic valve which measures 0.5 x 0.5 cm; cannot
   exclude valvular vegetation. There is no aortic valve stenosis. No
   aortic regurgitation is seen. The mitral valve leaflets are
   structurally normal. There is no mitral valve prolapse. No mass or
   vegetation is seen on the mitral valve. No mitral regurgitation is
   seen. The estimated pulmonary artery systolic pressure is normal. There
   is a trivial/physiologic pericardial effusion.
   IMPRESSION: Focal thickening of the right coronary cusp of the aortic
   valve without aortic regurgitation. Cannot exclude aortic valve
   vegetation. If clinically indicated, a TEE would better assess for
   endocarditis. Preserved regional and global biventricular systolic
   function.
   Culture data: (new results) Serum Toxoplasma IgM and IgG both negative.
   [**9-17**] Stool culture negative for campylobacter, shigella, salmonella.
   [**9-19**] Blood cultures NGTD x2, Sputum gram stain >25 PMNs, 4+ GNR, 2+
   budding yeast. [**Doctor First Name **] (+) 1:160. Aspergillous antigen negative. Toxo PCR
   CSF negative.
   Assessment and Plan
   Patient is a 60 year old female with past medical history of autoimmune
   disease, who presented with seizure, found to have listeria bacteremia,
   meningitis, and likely listeria brain abscess.
   .
   #) Respiratory failure: Patient intubated for airway protection in
   setting of altered mental status. Currently, her mental status and
   c-collar in place limit the ability to extubate her. Her elevated
   respiratory rate is likely secondary to her CNS process.
   - Will discuss with trauma surgery or spine surgery removal of her
   c-collar. Concern is that if this remains in place, she cannot be
   easily re-intubated should she fail a trial of extubation. CT c-spine
   was negative for any pathology.
   - Will continue to think forward regarding her respiratory status, as
   it may take considerable time for neurologic recovery to occur. Options
   include possible trial of extubation if c-collar can be removed, or
   proceeding to a tracheostomy. Will consider breathing trial tomorrow.
   .
   #) Listeria bacteremia and meningitis/encephalitis/abscess:
   Listeria noted in blood and CSF cultures from [**9-15**] and [**9-16**]
   respectively. Her recently immunosuppressed state may have pre-disposed
   her, and an iron overloaded state would alsopre-dispose to listeria
   infection per ID's note. At this time, left frontal mass suspected to
   be listeria abscess, (per chart notes) neurosurgery feels that given
   positive culture data, should treat this medically without surgical
   intervention.
   - Ampicillin and gentimicin were started on [**9-17**] today is day 4,
   gentimicin dose checked this morning. Will determine proper once daily
   dosing of gentimicin.
   - Appreciate ID and neurology input
will discuss further what the
   predicted recovery may be based on limited patient and case report data
   to help guide family and further management.
   - Will continue to follow culture data.
   - TEE requested to evaluate for abscess and vegetation given that TTE
   could not rule out abscess. Appreciate cardiology assistance. Will
   monitor EKGs for evidence of PR prolongation.
   - Phenytoin for seizure prophylasis, ativan in event of seizure; will
   hold phenytoin given elevated corrected level (today corrected level is
   26.3)
   - Currently checking daily head CT (yesterday, today), then every other
   day for 2 days, then will re-assess per neurosurgery. Currently will
   continue to treat medically, but need to consider tapping subdural
   collections at some point if no improvement (concern for subdural
   empyema).
   - EEG was not supportive of convulsive status.
   - Neuro checks q2H
   .
   #) Pancytopenia: Per hematology consult, elevated MCV with pancytopenia
   is consistent with Imuran toxicity, with other possibilities being B12
   or folate deficiency, viral process, and less likely malignancy. B12
   and folate were WNL.
   - Follow up iron studies, DIC panel from this morning, repeat retic
   count.
   - Continue to monitor trend, transfuse if HCT <21-22 or symptoms.
   - Appreciate hematology input, will call with questions.
   .
   #) Elevated INR: Suspected to be secondary to nutritional deficiencies.
   Patient has received multiple doses of vitamin K as well as FFP's at
   presentation. Per hematology and laboratory values, DIC appears to be
   less likely, but still will continue to monitor for this possibility.
   - Continuing to follow head CT
s as well as coag
s every day or two.
   .
   #) Elevated LFTs: Patient with elevated LFTs, will continue to monitor
   trend. Today all down or stable except for alkaline phos. RUQ
   consistent with liver disease, no other concerning pathology (no ductal
   dilation or gall bladder abnormalities noted. Per discussion with team
   this morning, listeria can have similar presentation to viral
   hepatitis.
   -          Called this morning to obtain records: patient was
   hospitalized at [**Doctor Last Name 918**] in [**Location (un) 841**], CA initially for first episode of
   elevated liver function tests, then followed up with Dr. [**First Name8 (NamePattern2) 979**] [**Last Name (NamePattern1) 980**] at
   [**Doctor Last Name 918**] in [**Location (un) 981**], OR, where she had her liver biopsy and MRCP.
   #) Hypernatremia: Suspect due to insensible losses from fevers, etc.
   She will need more free water repletion, so went up from 30 mL q6H,
   increased to 150 mL. Will recheck in PM to ensure it is improving.
   Given hypernatremia and hyperchloremia, will use LR for further fluid
   boluses.
   ICU Care
   Nutrition:
   Tube feeds
checking KUB today given mild abdominal distention; will
   increase bowel regimen as well given no BM for several days.
   Glycemic Control:  Insulin gtt if FSBG >150, otherwise sliding scale.
   Lines:
   Arterial Line - [**2124-9-15**] 01:37 PM
   Multi Lumen - [**2124-9-15**] 01:38 PM
   20 Gauge - [**2124-9-18**] 11:43 AM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: Famotidine
   VAP:  Head of bed elevated, Chlorhexidine
   Comments:
   Communication:  Comments: Family at bedside today
will be updated at
   noon meeting.
   Code status: Full code
   Disposition: ICU

2124-09-20 09:55:00 Physician Attending Progress Note
Chief Complaint: listeriosis, resp failure, encephalopathy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2124-9-19**] 10:31 AM
   RUQ ultrasound
 EEG - At [**2124-9-19**] 12:32 PM
 TRANSTHORACIC ECHO - At [**2124-9-19**] 03:36 PM
 FEVER - 102.5
F - [**2124-9-19**] 07:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-9-17**] 11:05 PM
   Metronidazole - [**2124-9-18**] 05:29 AM
   Cefipime - [**2124-9-18**] 10:00 AM
   Acyclovir - [**2124-9-18**] 10:56 AM
   Gentamicin - [**2124-9-20**] 12:40 AM
   Ampicillin - [**2124-9-20**] 08:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2124-9-20**] 07:30 AM
   Heparin Sodium (Prophylaxis) - [**2124-9-20**] 07:30 AM
   Other medications:
   SQI, SQH, H2B, dulcolax, DPH, ampicillin 2g q4, gent 300 daily, Keppra
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-20**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 37.5
C (99.5
   HR: 89 (83 - 114) bpm
   BP: 109/50(69) {91/46(62) - 149/66(92)} mmHg
   RR: 27 (19 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.3 kg (admission): 58.8 kg
   Height: 65 Inch
   CVP: 6 (1 - 10)mmHg
   Total In:
                                                                  2,652 mL
                                                                  1,463 mL
   PO:
   TF:
                                                                  1,502 mL
                                                                    247 mL
   IVF:
                                                                  1,060 mL
                                                                  1,116 mL
   Blood products:
   Total out:
                                                                  2,226 mL
                                                                    598 mL
   Urine:
                                                                  2,226 mL
                                                                    598 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    426 mL
                                                                    865 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 342 (342 - 459) mL
   PS : 8 cmH2O
   RR (Spontaneous): 35
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 87
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: 7.50/30/195/22/1
   Ve: 10.8 L/min
   PaO2 / FiO2: 488
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Normal
   Labs / Radiology
   7.3 g/dL
   77 K/uL
   195 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.0 mEq/L
   24 mg/dL
   121 mEq/L
   147 mEq/L
   21.2 %
   3.7 K/uL
        [image002.jpg]
                             [**2124-9-17**]  12:42 PM
                             [**2124-9-18**]  01:53 AM
                             [**2124-9-18**]  02:09 AM
                             [**2124-9-18**]  12:51 PM
                             [**2124-9-19**]  04:06 AM
                             [**2124-9-19**]  04:22 AM
                             [**2124-9-19**]  04:21 PM
                             [**2124-9-20**]  12:13 AM
                             [**2124-9-20**]  03:49 AM
                             [**2124-9-20**]  05:11 AM
   WBC
   3.7
   3.7
   3.7
   Hct
   26.0
   25.2
   21.2
   Plt
   74
   89
   77
   Cr
   0.6
   0.6
   0.6
   TCO2
   24
   22
   21
   22
   24
   24
   Glucose
   198
   207
   239
   195
   Other labs: PT / PTT / INR:18.6/46.2/1.7, CK / CKMB /
   Troponin-T:36//<0.01, ALT / AST:46/62, Alk Phos / T Bili:220/2.0,
   Amylase / Lipase:44/38, Differential-Neuts:65.5 %, Lymph:25.7 %,
   Mono:4.4 %, Eos:4.2 %, D-dimer:1729 ng/mL, Fibrinogen:310 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:2.0 g/dL, LDH:373 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:1.9 mg/dL
   Fluid analysis / Other labs: [**Doctor First Name **] 1:160
   Imaging: Echo with thickened aortic valve cusp
   Microbiology: No new (+) micro
   Assessment and Plan
   60-year-old woman with disseminated Listeria monocytogenes infection,
   with identified sites including brain abscess, meningitis, bacteremia,
   and possible subdural empyema.  Although the brain lesion has not been
   biopsied, I agree with consultants that the pre-test probability for
   Listeria abscess is so high that risks outweigh benefitis at present.
   Similarly, subdural empyema is possible.
   Listeria monocytogenes infection
   Appreciate help from multiple consulting services.  We will continue
   systemic antibiotics with ampicillin and gentamicin, and follow gent
   levels.  I believe that the best balance of risks and benefits is
   continued antibiotics with watchful waiting for now; both the abscess
   and the subdural collection may well resolve without surgical
   intervention.  Case discussed with ID.
   Ongoing fevers
   Appreciate ID
s help.  This is most likely to be related to her
   Listeria.  RUQ ultrasound reassuring.  TTE was abnormal but not
   diagnostic for valvular vegetation; will consult TEE service today.
   Coma
   Appreciate neurology
s help.  EEG adequately excludes non-convulsive
   status.  We will ask neurology to help with prognostic information for
   the family.
   Hepatitis
   Will try to get outside records to help sort out the diagnostic data
   supporting autoimmune hepatitis, especially since Listeria sometimes
   presents with hepatitis.
   Respiratory failure
   This is essentially due to neurologic status.  Will evaluate clinically
   as our team gets to know Ms. [**Known lastname 949**].  If appropriate from a
   prognostic and patient-wishes standpoint, would consider comparatively
   early tracheostomy since I suspect that any neurologic recovery will be
   a matter of weeks to months.
   C-collar
   Review prior imaging.  Will ask trauma or spine surgery to evaluate
   prior to removal.
   Anemia
   Follow for now; transfuse for Hct <21
   Hyperglycemia
   Assess after tube feeds resumed
   Communication
   Meeting again today at ~12:15
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2124-9-15**] 01:37 PM
   Multi Lumen - [**2124-9-15**] 01:38 PM
   20 Gauge - [**2124-9-18**] 11:43 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   Addendum
   Met with family for 30 minutes to provide updates on her status, our
   requests to neurology and infectious disease to provide best possible
   estimate for prognosis, and on likelihood that we will proceed
   expeditiously to tracheostomy this week unless prognosis is felt to be
   very poor.  All questions answered.

2124-09-21 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2124-9-20**] 11:00 AM
 FEVER - 101.8
F - [**2124-9-20**] 08:00 PM
   - Records received regarding liver biopsy and other records from [**State 951**]
   showing automimmume versus drug induced (stage III fibrosis), Hepatitis
   serologies negative x2
   - Started insulin gtt
   - KUB: demonstrated stool
   - Trauma surgery cleared and removed C-spine collar
   - Patient noted to have guaiac positive brown stool
   - Bolused 500cc LR for hypotension, with SBP in the 80s.
   - Family updated yesterday while visiting.
   Patient without purposeful movement or response to commands this
   morning except possibly trying to open eyes.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2124-9-18**] 10:00 AM
   Acyclovir - [**2124-9-18**] 10:56 AM
   Gentamicin - [**2124-9-20**] 11:57 PM
   Ampicillin - [**2124-9-21**] 04:12 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-9-20**] 11:58 PM
   Other medications:
   Lactulose 30 mL TID, Colace [**Hospital1 **], Senna, Insulin gtt/Sliding scale,
   Keppra 500 mg [**Hospital1 **] (day 3), Phenytoin 100mg IV Q24H, Albuterol, Tylenol,
   Heparin SQ TID, Chlorhexidine, Famotidine, Ativan, Calcium/Potassium
   SS, Bisacodyl.
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2124-9-21**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.4
C (99.3
   HR: 90 (86 - 110) bpm
   BP: 120/53(75) {91/48(64) - 136/63(88)} mmHg
   RR: 27 (20 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.3 kg (admission): 58.8 kg
   Height: 65 Inch
    CVP: 7 (3 - 16)mmHg
   Total In:
                                                                  3,712 mL
                                                                    636 mL
   PO:
   TF:
                                                                    892 mL
                                                                    455 mL
   IVF:
                                                                  2,350 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                  1,346 mL
                                                                    385 mL
   Urine:
                                                                  1,346 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,366 mL
                                                                    251 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 386 (342 - 669) mL
   PS : 8 cmH2O
   RR (Set): 12
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.52/28/209/22/1
   Ve: 10.5 L/min
   PaO2 / FiO2: 523
   Physical Examination
   General: Intubated, does not respond to commands. In NAD. No
   spontaneous eye opening noted.
   HEENT: NC/AT. Small cracks in lips, no bleeding, mucous membranes
   appear moist. No scleral icterus. PERRL.
   Neck: Supple, flat JVP.
   Lungs: Rhoncherous transmitted upper airway sounds, bilateral sounds,
   no wheezes
   Cardiac: Regular, no m/g/r appreciated
   Abdomen: Slightly distended, +BS, soft. No significant change from
   yesterday.
   Extr: Warm, 1+ pitting edema to ankles. No cyanosis or clubbing
   Skin: 1 cm erythematous area on 4^rd finger of left hand with overlying
   central scabbed area, mild ecchymosis and erythema over right knee
   warmth. Mild ecchymoses over right thigh
   Neuro: Possible attempt at opening eyes, but does not open fully.
   PERRL. Small amount of withdrawal to noxious stimuli L>R feet. No
   response to noxious stimuli of feet. No change in hyperreflexia. No
   purposeful movement.
   Labs / Radiology
   85 K/uL
   7.4 g/dL
   121 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.7 mEq/L
   22 mg/dL
   122 mEq/L
   148 mEq/L
   21.1 %
   4.9 K/uL
        [image002.jpg]
                             [**2124-9-18**]  12:51 PM
                             [**2124-9-19**]  04:06 AM
                             [**2124-9-19**]  04:22 AM
                             [**2124-9-19**]  04:21 PM
                             [**2124-9-20**]  12:13 AM
                             [**2124-9-20**]  03:49 AM
                             [**2124-9-20**]  05:11 AM
                             [**2124-9-21**]  12:13 AM
                             [**2124-9-21**]  04:23 AM
                             [**2124-9-21**]  05:35 AM
   WBC
   3.7
   3.7
   4.9
   Hct
   25.2
   21.2
   21.1
   Plt
   89
   77
   85
   Cr
   0.6
   0.6
   0.6
   TCO2
   22
   21
   22
   24
   24
   24
   24
   Glucose
   [**Telephone/Fax (3) 995**]
   Other labs: PT / PTT / INR:18.6/46.2/1.7, CK / CKMB /
   Troponin-T:36//<0.01, ALT / AST:48/57, Alk Phos / T Bili:227/2.0,
   Amylase / Lipase:44/38, Differential-Neuts:65.5 %, Lymph:25.7 %,
   Mono:4.4 %, Eos:4.2 %, D-dimer:1729 ng/mL, Fibrinogen:310 mg/dL, Lactic
   Acid:2.6 mmol/L, Albumin:2.0 g/dL, LDH:406 IU/L, Ca++:7.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:1.9 mg/dL
   CT Head [**9-20**]:
   . No significant change in appearance of left frontal lobe hypodensity
   with
   mild local mass effect.
   2. Unchanged bilateral low-density subdural fluid collections.
   3. No evidence for new hemorrhage, increasing edema, mass effect, or
   acute
   infarction
   [**9-20**] KUB: IMPRESSION: Large amount of stool with no evidence of
   obstruction.
   [**9-20**] Transesophageal Echocardiogram:  The left atrium is normal in
   size. No mass/thrombus is seen in the left atrium or left atrial
   appendage. No atrial septal defect or patent foramen ovale is seen by
   2D, color Doppler or saline contrast at rest. Overall left ventricular
   systolic function is normal (LVEF>55%). Right ventricular chamber size
   and free wall motion are normal. The aortic valve leaflets (3) appear
   structurally normal with good leaflet excursion except the right cusp,
   which appears substantially thicker. No masses or vegetations are seen
   on the aortic valve. The mitral valve appears structurally normal with
   trivial mitral regurgitation. No mass or vegetation is seen on the
   mitral valve. However, there is a small amount thickening and
   echolucency around the fibrous structures connecting the non-coronary
   cusp of the aortic valve, the anterior mitral valve apparatus, and the
   interatrial septum that can be consistent with abcess in the
   appropriate clinical setting. Normal tricuspid leaflets with trivial
   tricuspid regurgitation. No masses or vegetations are seen on the
   tricuspid valve. No vegetation/mass is seen on the pulmonic valve.
   There is no pericardial effusion.
   Impression: No vegetation on the cardiac valves. Small amount of
   fibrous tissue thickening/echolucency in the fibrous structure
   connecting the non-coronary cusp of the aortic valve, the anterior
   mitral valve apparatus, and the interatrial septum that could be
   consistent with abcess in the appropriate clinical setting. No other
   intracardiac source of thrombus is identified. Normal biventricular
   function. No signficant valvular dysfunction.
   Culture data:
   Sputum [**9-19**] Gram negative rods, moderate growth. Otherwise many blood,
   urine cultures pending or no growth since admission. No other new (+)
   culture data.
   Other laboratories:
   AMA negative ([**9-19**]), B-glucan, beta-2-glycoprotein, entamoeba,
   azathioprine/TPMT all pending
   Assessment and Plan
   Patient is a 60 year old female with past medical history of autoimmune
   disease, who presented with seizure, found to have listeria bacteremia,
   meningitis, and likely listeria brain abscess.
   .
   #) Respiratory failure: Patient intubated for airway protection in
   setting of altered mental status. Currently, her mental status and
   limits the ability to extubate her. Her elevated respiratory rate is
   likely secondary to her CNS process.
   - Discussed at length risks and benefits of trial of extubation in this
   patient. Her RSBI is encouraging, but her mental status remains very
   poor. Concern would be for complications if she was failed extubation
   and was difficult to re-intubate.
   - Based on the fact that it is expected the patient would likely remain
   intubated for the foreseeable future, and based on discussions of team
   with family, will consult IP for trach and PEG. Appreciate IP
   assistsance.
   .
   #) Listeria bacteremia and meningitis/encephalitis/abscess and
   resultant mental status:
   Listeria noted in blood and CSF cultures from [**9-15**] and [**9-16**]
   respectively. Her recently immunosuppressed state may have pre-disposed
   her, and an iron overloaded state would alsopre-dispose to listeria
   infection per ID's note. Today there is concern for possible worsening
   mental status, as it took more stimuli for withdrawal and she may not
   have been opening her eyes as she was before. Her CT head yesterday was
   without change. Given question of change in mental status, will check
   head CT again today. If there are any changes in her imaging concerning
   for worsening edema or bleeding, will re-consult neurosurgery.
   - Ampicillin and gentimicin were started on [**9-17**] today is day 5. Level
   yesterday was <2, which is goal for once daily dosing.
   - Appreciate ID and neurology input.
   - Will continue to follow culture data.
   - TEE as noted
no definite vegetation or abscess seen, but
   abnormalities as noted above.
   - Phenytoin for seizure prophylaxis, tomorrow initiating keppra 1000 mg
   [**Hospital1 **] and stopping phenytoin. Combination of two overlapping
   anti-epileptics could be part of reason for decreased mental status.
   Corrected phenytoin level today is 25.
   - Head CT from last two days without change, checking today to ensure
   no further change given question of change in mental status. If
   unchanged, will check on Saturday, and then again on Monday.
   - EEG was not supportive of convulsive status.
   - Neuro checks q2H
   - Will work on optimizing reversible factors such as hypernatremia,
   adding lactulose in event that there is a degree of hepatic
   encephalopathy.
   - In event patient has decline or new imaging findings, will again
   address any benefits that decompression or drainage of possible
   empyema/abscess may have. Currently had no evidence of mass effect or
   significant edema on scans.
   .
   #) Pancytopenia: Per hematology consult, elevated MCV with pancytopenia
   is consistent with Imuran toxicity, with other possibilities being B12
   or folate deficiency, viral process, and less likely malignancy. B12
   and folate were WNL.
   - Follow up iron studies, DIC panel from this morning, repeat retic
   count.
   - Continue to monitor trend, transfuse if HCT <21-22 or symptoms.
   - Appreciate hematology input, will call with questions.
   - TPMT returned positive, consistent with heterozyogous state, which
   suggests increased risk of myelosuppression with Imuran treatment.
   .
   #) Elevated INR: Suspected to be secondary to nutritional deficiencies.
   Patient has received multiple doses of vitamin K as well as FFP's at
   presentation. Per hematology and laboratory values, DIC appears to be
   less likely, but still will continue to monitor for this possibility.
   - Continuing to follow head CT
s as well as coag
s every other day.
   .
   #) Elevated LFTs: Overall stable. RUQ consistent with liver disease, no
   other concerning pathology (no ductal dilation or gall bladder
   abnormalities noted. Per discussion with team this morning, listeria
   can have similar presentation to viral hepatitis.
   -          Some records obtained, continuing to obtain remainder from
   [**Doctor Last Name 918**] (fax sent again with husband
s consent).
   #) Hypernatremia: Persistent hypernatremia, likely due to insensible
   losses from fevers, increased respiratory rate, and other insensible
   losses. She will need more free water repletion, so increased FW
   flushes to 200 mL Q4H, as wish to avoid D5W in event this may worsen
   cerebral edema (no significant edema at present however).
   Given hypernatremia and hyperchloremia, will use LR for further fluid
   boluses.
   - Will continue to trend sodium, re-check this evening.
   #) Finger lesion: Per family, lesion has been present for several
   months. Differential includes foreign object, infection, insect bite.
   No fluctuance or fluid expressed.
   - Will request dermatology consult for further evaluation, appreciate
   assistance.
   #) Question of increased pigmentation: Family provided history of
   darkening skin pigement over last months to years. This also was
   reported in her outpatient visits with her gastroenterologist (at that
   time, her T. Bili was 23). Appreciate dermatology input on this matter
   as well. No evidence of adrenal disease (Addison
s, or
   hemachromatosis).
   #) Gram negative rods in sputum: Unclear if this represents true
   infection, but suspect at present this is likely not true pneumonia as
   she does not have a significant amount of sputum, no leukocytosis, and
   overall fever curve has improved. Chest x-ray also remains unimpressive
   for infection. Will have low threshold to initiate treatment, and will
   have respiratory therapy complete a mini-BAL today to collect further
   culture data.
   #) Hypotension: Patient with transient hypotension this morning. This,
   coupled with her hypernatremia, borderline tachycardia, dry mucous
   membranes, all support volume depleted state. Will continue LR boluses
   to keep up urine output >40-50 cc/hour, SBP >90, and HR<100.
   ICU Care
   Nutrition:
   Tube feeds, NPO after midnight for trach/PEG
   Glycemic Control:  Insulin gtt/sliding scale.
   Lines:
   Arterial Line - [**2124-9-15**] 01:37 PM
   Multi Lumen - [**2124-9-15**] 01:38 PM
   20 Gauge - [**2124-9-18**] 11:43 AM
   Prophylaxis:
   DVT: Heparin SQ TID
   Stress ulcer: PPI [**Hospital1 **] (Will continue to monitor for occult bleeding
   given occult (+) stool, changing to [**Hospital1 **] PPI
   VAP:  Head of bed elevated, chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2124-09-22 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BAL FLUID CULTURE - At [**2124-9-21**] 05:19 PM
   "mini" BAL done by respiratory; may need actual BAL tomorrow per RTs
 FEVER - 101.2
F - [**2124-9-22**] 12:00 AM
   -          IP to place trach/PEG today
   -          B-glucan positive: ID felt difficult ti interpret in setting
   of abx tx, rec rechecking, if still + may consider empiric tx
   -          Neuro met with family, prognosis difficult to assess in
   setting of prolonged sz and fevers
   -          Head CT stable
   -          Chest CT w/o change
   -          Mini-BAL sent
   -          Derm c/s: hyperpigmentation not related to adrenal
   insufficiency or acanthosis nigrans, likely [**1-22**] sun, liver dz,
   photosensitizing agents; finger lesion was foreign body w/ granuloma
   -          TPMT positive for heterozygous state (no longer on Imuran)
   -          Bolused 500 LR x 2 for SBP 86-90
   -          Hct 17 this AM, transfused 2 u pRBCs
   -
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2124-9-22**] 12:00 AM
   Ampicillin - [**2124-9-22**] 04:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2124-9-21**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2124-9-21**] 04:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-22**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.3
C (97.4
   HR: 91 (89 - 108) bpm
   BP: 113/59(79) {90/49(64) - 151/75(102)} mmHg
   RR: 23 (23 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.3 kg (admission): 58.8 kg
   Height: 65 Inch
    CVP: 5 (3 - 9)mmHg
   Total In:
                                                                  3,794 mL
                                                                  1,763 mL
   PO:
   TF:
                                                                  1,270 mL
                                                                      4 mL
   IVF:
                                                                  2,004 mL
                                                                  1,432 mL
   Blood products:
                                                                    128 mL
   Total out:
                                                                  1,374 mL
                                                                    345 mL
   Urine:
                                                                  1,034 mL
                                                                    345 mL
   NG:
                                                                    340 mL
   Stool:
   Drains:
   Balance:
                                                                  2,420 mL
                                                                  1,418 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 479 (411 - 479) mL
   PS : 8 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 78
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 11.6 L/min
   Physical Examination
   General: Intubated, does not respond to commands. In NAD. No
   spontaneous eye opening noted.
   HEENT: NC/AT. Small cracks in lips, no bleeding, mucous membranes
   appear moist. No scleral icterus. PERRL.
   Neck: Supple, flat JVP.
   Lungs: Rhoncherous transmitted upper airway sounds, bilateral sounds,
   no wheezes
   Cardiac: Regular, no m/g/r appreciated
   Abdomen: Slightly distended, +BS, soft. No significant change from
   yesterday.
   Extr: Warm, 1+ pitting edema to ankles. No cyanosis or clubbing
   Skin: 1 cm erythematous area on 4^rd finger of left hand with overlying
   central scabbed area, mild ecchymosis over right knee
no warmth. Mild
   ecchymoses over right thigh
   Neuro: PERRL. Small amount of withdrawal to noxious stimuli L>R feet.
   No change in hyperreflexia. No purposeful movement.
   Labs / Radiology
   78 K/uL
   5.9 g/dL
   164 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.4 mEq/L
   20 mg/dL
   124 mEq/L
   149 mEq/L
   17.2 %
   4.3 K/uL
        [image002.jpg]
                             [**2124-9-19**]  04:22 AM
                             [**2124-9-19**]  04:21 PM
                             [**2124-9-20**]  12:13 AM
                             [**2124-9-20**]  03:49 AM
                             [**2124-9-20**]  05:11 AM
                             [**2124-9-21**]  12:13 AM
                             [**2124-9-21**]  04:23 AM
                             [**2124-9-21**]  05:35 AM
                             [**2124-9-21**]  03:06 PM
                             [**2124-9-22**]  03:46 AM
   WBC
   3.7
   4.9
   4.3
   Hct
   21.2
   21.1
   21.7
   17.2
   Plt
   77
   85
   78
   Cr
   0.6
   0.6
   0.6
   0.6
   TCO2
   21
   22
   24
   24
   24
   24
   Glucose
   195
   121
   157
   164
   Other labs: PT / PTT / INR:16.7/48.1/1.5, CK / CKMB /
   Troponin-T:36//<0.01, ALT / AST:40/43, Alk Phos / T Bili:224/1.4,
   Amylase / Lipase:44/279, Differential-Neuts:59.6 %, Lymph:36.0 %,
   Mono:1.4 %, Eos:2.8 %, D-dimer:1729 ng/mL, Fibrinogen:209 mg/dL, Lactic
   Acid:2.6 mmol/L, Albumin:1.6 g/dL, LDH:345 IU/L, Ca++:6.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   CT head [**9-21**]: No significant change
   CT Chest [**9-21**]: Unchanged 3mm RML nodule; Ascites; tiny bilateral
   pleural effusion; small pericardial effusion (stable)
   [**9-20**] KUB: IMPRESSION: Large amount of stool with no evidence of
   obstruction.
   [**9-20**] Transesophageal Echocardiogram:  The left atrium is normal in
   size. No mass/thrombus is seen in the left atrium or left atrial
   appendage. No atrial septal defect or patent foramen ovale is seen by
   2D, color Doppler or saline contrast at rest. Overall left ventricular
   systolic function is normal (LVEF>55%). Right ventricular chamber size
   and free wall motion are normal. The aortic valve leaflets (3) appear
   structurally normal with good leaflet excursion except the right cusp,
   which appears substantially thicker. No masses or vegetations are seen
   on the aortic valve. The mitral valve appears structurally normal with
   trivial mitral regurgitation. No mass or vegetation is seen on the
   mitral valve. However, there is a small amount thickening and
   echolucency around the fibrous structures connecting the non-coronary
   cusp of the aortic valve, the anterior mitral valve apparatus, and the
   interatrial septum that can be consistent with abcess in the
   appropriate clinical setting. Normal tricuspid leaflets with trivial
   tricuspid regurgitation. No masses or vegetations are seen on the
   tricuspid valve. No vegetation/mass is seen on the pulmonic valve.
   There is no pericardial effusion.
   Impression: No vegetation on the cardiac valves. Small amount of
   fibrous tissue thickening/echolucency in the fibrous structure
   connecting the non-coronary cusp of the aortic valve, the anterior
   mitral valve apparatus, and the interatrial septum that could be
   consistent with abcess in the appropriate clinical setting. No other
   intracardiac source of thrombus is identified. Normal biventricular
   function. No signficant valvular dysfunction.
   Culture data:
   Sputum [**9-19**] Gram negative rods, moderate growth. Otherwise many blood,
   urine cultures pending or no growth since admission. No other new (+)
   culture data.
   Other laboratories:
   - AMA negative ([**9-19**])
   - B-glucan POSITIVE,
   - beta-2-glycoprotein:
   - entamoeba: pending
   - azathioprine/TPMT: heterozygous state
- mini-BAL [**9-21**]: No polys, no microorganisms, cx pending
CXR [**9-22**]: ? more fullness of the R hilum c/w yesterday vs penetration difference
; ETT is low, d/w rads, due for trach today
   Assessment and Plan
   Patient is a 60 year old female with past medical history of autoimmune
   disease, who presented with seizure, found to have lLsteria bacteremia,
   meningitis, and likely Listeria brain abscess.
   .
   #) Respiratory failure: Patient intubated for airway protection in
   setting of altered mental status. Currently, her mental status and
   limits the ability to extubate her. Her elevated respiratory rate is
   likely secondary to her CNS process.
   - Discussed at length risks and benefits of trial of extubation in this
   patient. Her RSBI is encouraging, but her mental status remains very
   poor. Concern would be for complications if she failed extubation and
   was difficult to re-intubate.
   - Based on the fact that it is expected the patient would likely remain
   intubated for the foreseeable future, and based on discussions of team
   with family, trach and PEG. Appreciate IP assistsance.
   .
   #) Listeria bacteremia and meningitis/encephalitis/abscess and
   resultant mental status:
   Listeria noted in blood and CSF cultures from [**9-15**] and [**9-16**]
   respectively. Her recently immunosuppressed state may have pre-disposed
   her. There is concern for possible worsening mental status, as now does
   not appear to withdraw to noxious stimuli. Her CT head has been
   stable.  If there are any changes in her imaging concerning for
   worsening edema or bleeding, will re-consult neurosurgery.
   - Ampicillin and gentimicin were started on [**9-17**] today is day 6. Level
   Gent yesterday was <2, which is goal for once daily dosing.
   - Appreciate ID and neurology input.
   - Will continue to follow culture data.
   - TEE as noted
no definite vegetation or abscess seen, but
   abnormalities as noted above.
   - Initiated keppra 1000 mg [**Hospital1 **] and stopping phenytoin. Combination of
   two overlapping anti-epileptics could be part of reason for decreased
   mental status.
   - Head CT from last two days without change, checking today to ensure
   no further change given question of change in mental status. If
   unchanged, will check on Saturday, and then again on Monday.
   - EEG was not supportive of convulsive status.
   - Neuro checks q2H
   - Will work on optimizing reversible factors such as hypernatremia,
   adding lactulose in event that there is a degree of hepatic
   encephalopathy.
   - In event patient has decline or new imaging findings, will again
   address any benefits that decompression or drainage of possible
   empyema/abscess may have. Currently had no evidence of mass effect or
   significant edema on scans.
   .
   #) Pancytopenia: Per hematology consult, elevated MCV with pancytopenia
   is consistent with Imuran toxicity, with other possibilities being B12
   or folate deficiency, viral process, and less likely malignancy. B12
   and folate were WNL.
   - This AM FDP 10-40, hapto <20, could be hemolyzing for unclear reasons
   (no literature for Keppra as cause of hemolysis); sending Coombs test,
   will d/w Heme today
   - Continue to monitor trend, transfuse if HCT <21-22 or symptoms.
   - TPMT returned positive, consistent with heterozyogous state, which
   suggests increased risk of myelosuppression with Imuran treatment.
   - Transfusing 2 units for Hct 17, check post-transfusion Hct
   - Repeat hemolysis labs
   .
   #) Elevated INR: Suspected to be secondary to nutritional deficiencies.
   Patient has received multiple doses of vitamin K as well as FFP's at
   presentation. Per hematology and laboratory values, DIC appears to be
   less likely, but still will continue to monitor for this possibility.
   - Continuing to follow head CT
s as well as coag
s every other day.
   .
   #) Elevated LFTs: Overall stable. RUQ consistent with liver disease, no
   other concerning pathology (no ductal dilation or gall bladder
   abnormalities noted. Per discussion with team this morning, listeria
   can have similar presentation to viral hepatitis.  Lipase elevated
   today
           -      recheck lipase
   -          Some records obtained, continuing to obtain remainder from
   [**Doctor Last Name 918**] (fax sent again with husband
s consent).
   -          Records from [**Location (un) 841**] pending (faxed request x 2)
   #) Hypernatremia: Persistent hypernatremia, likely due to insensible
   losses from fevers, increased respiratory rate, and other insensible
   losses. She will need more free water repletion, so increased FW
   flushes to 150 mL Q3H, as wish to avoid D5W in event this may worsen
   cerebral edema (no significant edema at present however).
   Given hypernatremia and hyperchloremia, will use LR for further fluid
   boluses.
   - Will continue to trend sodium, re-check this evening.
   #) Finger lesion: Derm evaluated, foreign body with granuloma.
   #) Question of increased pigmentation: Family provided history of
   darkening skin pigment over last months to years. This also was
   reported in her outpatient visits with her gastroenterologist (at that
   time, her T. Bili was 23). Appreciate dermatology input on this matter
   as well. No evidence of adrenal disease (Addison
s, or
   hemachromatosis).
   #) Gram negative rods in sputum: Unclear if this represents true
   infection, but suspect at present this is likely not true pneumonia as
   she does not have a significant/new amount of sputum, no leukocytosis,
   and overall fever curve has improved. Chest x-ray also remains
   unimpressive for infection. Will have low threshold to initiate
   treatment, respiratory therapy completed a mini-BAL yesterday that
   showed no microorganisms or PMNs.
   - Consider formal BAL today with trach
   # Positive beta-glucan.  [**Month (only) 11**] be indicator of fungal infection,
   particularly given recent immunosuppression.
   - ID recs: difficult to interpret in context of abx, recommend
   rechecking, if positive could empirically tx
   #) Hypotension: Patient with transient hypotension overnight. This,
   coupled with her hypernatremia, borderline tachycardia, dry mucous
   membranes, all support volume depleted state. Monitoring closely for
   worsening sepsis. Will continue LR boluses to keep up urine output
   >40-50 cc/hour, SBP >90, and HR<100.
   ICU Care
   Nutrition:
   Tube feeds, NPO after midnight for trach/PEG this AM
   Glycemic Control:  Insulin gtt/sliding scale.
   Lines:
   Arterial Line - [**2124-9-15**] 01:37 PM
   Multi Lumen - [**2124-9-15**] 01:38 PM
   20 Gauge - [**2124-9-18**] 11:43 AM
   Prophylaxis:
   DVT: Heparin SQ TID
   Stress ulcer: PPI [**Hospital1 **] (Will continue to monitor for occult bleeding
   given occult (+) stool, changing to [**Hospital1 **] PPI
   VAP:  Head of bed elevated, chlorhexidine
   Comments:
   Communication:  Comments:  With family daily
   Code status: Full code
   Disposition: ICU

2124-09-23 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2124-9-22**] 08:30 AM
 BRONCHOSCOPY - At [**2124-9-22**] 03:20 PM
 PERCUTANEOUS TRACHEOSTOMY - At [**2124-9-22**] 03:20 PM
 PERCUTANEOUS TRACHEOSTOMY - At [**2124-9-22**] 03:26 PM
 PEG INSERTION - At [**2124-9-22**] 04:26 PM
   - Labs concerning for hemolysis, seen by Heme, smear OK and Tb down so
   unlikely to be hemolysis (low hapto can be from liver dz)
   - PEG required two passes, so serial abd exams and close monitoring for
   sign of peritonitis required; likely will need gastrograffin study in
   48h for ? leak (discuss with IP)
   - Bronchial washing: Gram stain negative, no WBCs, no PMNs, cx pending
   - Keppra switched to IV b/c NPO/NPG x 48h s/p PEG
   - Sent beta glycan pre & post Ampicillin dosing, as may be causing
   falsely elevated level
   - Hct stable s/p transfusion yesterday
   - BP 80-90s overnight again, bolused 500cc LR x 1
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2124-9-23**] 12:04 AM
   Ampicillin - [**2124-9-23**] 04:03 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-22**] 08:00 AM
   Fentanyl - [**2124-9-22**] 03:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-23**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.7
   HR: 89 (83 - 120) bpm
   BP: 117/52(73) {85/45(60) - 142/73(99)} mmHg
   RR: 21 (17 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.3 kg (admission): 58.8 kg
   Height: 65 Inch
    CVP: 6 (4 - 360)mmHg
   Total In:
                                                                  3,779 mL
                                                                    395 mL
   PO:
   TF:
                                                                      4 mL
   IVF:
                                                                  2,707 mL
                                                                    395 mL
   Blood products:
                                                                    808 mL
   Total out:
                                                                  1,030 mL
                                                                    270 mL
   Urine:
                                                                  1,030 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,749 mL
                                                                    125 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 376 (376 - 416) mL
   PS : 8 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.50/30/141/22/1
   Ve: 9.8 L/min
   PaO2 / FiO2: 353
   Physical Examination
   General: Intubated, does not respond to commands. In NAD. No
   spontaneous eye opening noted.
   HEENT: NC/AT. Small cracks in lips, no bleeding, mucous membranes
   appear moist. Upper lip edematous, slightly less so than yesterday. No
   scleral icterus. PERRL.
   Neck: Supple, flat JVP.
   Lungs: Rhonchorous bilateral sounds, no wheezes
   Cardiac: Regular, no m/g/r appreciated
   Abdomen: Slightly distended, +BS, soft. No significant change from
   yesterday. PEG in place.
   Extr: Warm, 1+ pitting edema to ankles. No cyanosis or clubbing
   Skin: wd/wp
   Neuro: PERRL. Small amount of withdrawal to noxious stimuli L>R feet.
   No change in hyperreflexia. No purposeful movement
   Labs / Radiology
   86 K/uL
   8.8 g/dL
   92 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.8 mEq/L
   18 mg/dL
   122 mEq/L
   149 mEq/L
   24.8 %
   7.0 K/uL
        [image002.jpg]
                             [**2124-9-21**]  12:13 AM
                             [**2124-9-21**]  04:23 AM
                             [**2124-9-21**]  05:35 AM
                             [**2124-9-21**]  03:06 PM
                             [**2124-9-22**]  03:46 AM
                             [**2124-9-22**]  02:30 PM
                             [**2124-9-22**]  11:52 PM
                             [**2124-9-23**]  12:07 AM
                             [**2124-9-23**]  04:10 AM
                             [**2124-9-23**]  04:30 AM
   WBC
   4.9
   4.3
   6.9
   7.0
   Hct
   21.1
   21.7
   17.2
   25.1
   24.8
   24.8
   Plt
   85
   78
   98
   86
   Cr
   0.6
   0.6
   0.6
   0.6
   TCO2
   24
   24
   24
   24
   Glucose
   121
   157
   164
   92
   Other labs: PT / PTT / INR:15.3/32.7/1.4, CK / CKMB /
   Troponin-T:36//<0.01, ALT / AST:34/34, Alk Phos / T Bili:173/1.9,
   Amylase / Lipase:202/279, Differential-Neuts:59.6 %, Lymph:36.0 %,
   Mono:1.4 %, Eos:2.8 %, D-dimer:1729 ng/mL, Fibrinogen:209 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:1.9 g/dL, LDH:363 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   CT head [**9-21**]: No significant change
   CT Chest [**9-21**]: Unchanged 3mm RML nodule; Ascites; tiny bilateral
   pleural effusion; small pericardial effusion (stable)
   [**9-20**] KUB: IMPRESSION: Large amount of stool with no evidence of
   obstruction.
   [**9-20**] Transesophageal Echocardiogram:  The left atrium is normal in
   size. No mass/thrombus is seen in the left atrium or left atrial
   appendage. No atrial septal defect or patent foramen ovale is seen by
   2D, color Doppler or saline contrast at rest. Overall left ventricular
   systolic function is normal (LVEF>55%). Right ventricular chamber size
   and free wall motion are normal. The aortic valve leaflets (3) appear
   structurally normal with good leaflet excursion except the right cusp,
   which appears substantially thicker. No masses or vegetations are seen
   on the aortic valve. The mitral valve appears structurally normal with
   trivial mitral regurgitation. No mass or vegetation is seen on the
   mitral valve. However, there is a small amount thickening and
   echolucency around the fibrous structures connecting the non-coronary
   cusp of the aortic valve, the anterior mitral valve apparatus, and the
   interatrial septum that can be consistent with abcess in the
   appropriate clinical setting. Normal tricuspid leaflets with trivial
   tricuspid regurgitation. No masses or vegetations are seen on the
   tricuspid valve. No vegetation/mass is seen on the pulmonic valve.
   There is no pericardial effusion.
   Impression: No vegetation on the cardiac valves. Small amount of
   fibrous tissue thickening/echolucency in the fibrous structure
   connecting the non-coronary cusp of the aortic valve, the anterior
   mitral valve apparatus, and the interatrial septum that could be
   consistent with abcess in the appropriate clinical setting. No other
   intracardiac source of thrombus is identified. Normal biventricular
   function. No signficant valvular dysfunction.
   Culture data:
   Sputum [**9-19**] Gram negative rods, moderate growth. Otherwise many blood,
   urine cultures pending or no growth since admission. No other new (+)
   culture data.
   Other laboratories:
   - AMA negative ([**9-19**])
   - B-glucan POSITIVE,
   - beta-2-glycoprotein:
   - entamoeba: pending
   - azathioprine/TPMT: heterozygous state
- mini-BAL [**9-21**]: No polys, no microorganisms, cx pending
CXR [**9-23**]: trach in place,
   Assessment and Plan
   Patient is a 60 year old female with past medical history of autoimmune
   disease, who presented with seizure, found to have Listeria bacteremia,
   meningitis, and likely Listeria brain abscess.
   .
   #) Respiratory failure: Patient intubated for airway protection in
   setting of altered mental status, now POD 1 from trach. Her elevated
   respiratory rate is likely secondary to her CNS process.  Appreciate IP
   assistance.
   -
   .
   #) Listeria bacteremia and meningitis/encephalitis/abscess and
   resultant mental status:
   Listeria noted in blood and CSF cultures from [**9-15**] and [**9-16**]
   respectively. Her recently immunosuppressed state may have pre-disposed
   her. There is concern for possible worsening mental status, as now does
   not appear to withdraw to noxious stimuli. Her CT head has been
   stable.  If there are any changes in her imaging concerning for
   worsening edema or bleeding, will re-consult neurosurgery.
   - Ampicillin and gentimicin were started on [**9-17**] today is day 7. Goal
   gent <2 for once daily dosing.
   - Appreciate ID and neurology input.
   - Will continue to follow culture data.
   - TEE as noted
no definite vegetation or abscess seen, but
   abnormalities as noted above.
   - Initiated keppra 1000 mg [**Hospital1 **] and stopping phenytoin. Combination of
   two overlapping anti-epileptics could be part of reason for decreased
   mental status.
   - Head CT from last two days without change, checking today to ensure
   no further change given question of change in mental status. If
   unchanged, will check on Saturday, and then again on Monday.
   - EEG was not supportive of convulsive status.
   - Neuro checks q2H
   - Will work on optimizing reversible factors such as hypernatremia,
   adding lactulose in event that there is a degree of hepatic
   encephalopathy.
   - In event patient has decline or new imaging findings, will again
   address any benefits that decompression or drainage of possible
   empyema/abscess may have. Currently had no evidence of mass effect or
   significant edema on scans.
   - ID recommending repeat LP on Monday.
   .
   #) Pancytopenia: Per hematology consult, elevated MCV with pancytopenia
   is consistent with Imuran toxicity, with other possibilities being B12
   or folate deficiency, viral process, and less likely malignancy. B12
   and folate were WNL.
   - FDP 10-40, hapto <20, could be hemolyzing for unclear reasons (no
   literature for Keppra as cause of hemolysis); Heme evaluated smear, no
   evidence for hemolysis
   - Continue to monitor trend, transfuse if HCT <21-22 or symptoms.
   - TPMT returned positive, consistent with heterozyogous state, which
   suggests increased risk of myelosuppression with Imuran treatment.
   - Hct stable post transfusion
   .
   #) Elevated INR: Suspected to be secondary to nutritional deficiencies.
   Patient has received multiple doses of vitamin K as well as FFP's at
   presentation. Per hematology and laboratory values, DIC appears to be
   less likely, but still will continue to monitor for this possibility.
   - Continuing to follow head CT
s as well as coags every other day.
   .
   #) Elevated LFTs: Overall stable. RUQ consistent with liver disease, no
   other concerning pathology (no ductal dilation or gall bladder
   abnormalities noted. Per discussion with team this morning, listeria
   can have similar presentation to viral hepatitis.  Lipase elevated
   today
           -      recheck lipase
   -          Some records obtained, continuing to obtain remainder from
   [**Doctor Last Name 918**] (fax sent again with husband
s consent).
   -          Records from [**Location (un) 841**] pending (faxed request x 2)
   .
   #) Hypernatremia: Persistent hypernatremia, likely due to insensible
   losses from fevers, increased respiratory rate, and other insensible
   losses. She will need more free water repletion, but now NPG x 48 hrs,
   concern for giving D5W given CNS issues.
   Given hypernatremia and hyperchloremia, will use LR for further fluid
   boluses.
   - Start D5W gently to decrease Na as pt is now NPO/NPG until at least
   Monday
   - Will continue to trend sodium, re-check this evening.
   .
   #) Question of increased pigmentation: Family provided history of
   darkening skin pigment over last months to years. This also was
   reported in her outpatient visits with her gastroenterologist (at that
   time, her T. Bili was 23). Appreciate dermatology input on this matter
   as well. No evidence of adrenal disease (Addison
s, or
   hemachromatosis).
   #) Gram negative rods in sputum: Unclear if this represents true
   infection, but suspect at present this is likely not true pneumonia as
   she does not have a significant/new amount of sputum, no leukocytosis,
   and overall fever curve has improved. Chest x-ray also remains
   unimpressive for infection. Will have low threshold to initiate
   treatment, respiratory therapy completed a mini-BAL yesterday that
   showed no microorganisms or PMNs.
   - Bronchial washings performed by IP: culture pending, no micro seen
   # Positive beta-glucan.  [**Month (only) 11**] be indicator of fungal infection,
   particularly given recent immunosuppression.
   - ID recs: difficult to interpret in context of abx, recommend
   rechecking, if positive could empirically tx
   -  Sent beta glucan pre and post Amp dosing to ascertain whether
   elevated level is related to abx
   #) Hypotension: Patient with transient hypotension overnight. This,
   coupled with her hypernatremia, borderline tachycardia, dry mucous
   membranes, all support volume depleted state. Monitoring closely for
   worsening sepsis. Will continue LR boluses to keep up urine output
   >40-50 cc/hour, SBP >90, and HR<100.
   # Peg: Required two attempts, being monitored closely for evidence of
   leak in stomach/peritonitis.
   - Gastrograffin study Monday
   - IP following
   ICU Care
   Nutrition:
   NPO/NPG
   Glycemic Control:  Insulin gtt/sliding scale.
   Lines:
   Arterial Line - [**2124-9-15**] 01:37 PM
   Multi Lumen - [**2124-9-15**] 01:38 PM
   20 Gauge - [**2124-9-18**] 11:43 AM
   Prophylaxis:
   DVT: Heparin SQ TID
   Stress ulcer: PPI [**Hospital1 **] (Will continue to monitor for occult bleeding
   given occult (+) stool, changing to [**Hospital1 **] PPI
   VAP:  Head of bed elevated, chlorhexidine
   Comments:
   Communication:  Comments:  With family daily
   Code status: Full code
   Disposition: ICU

2124-09-24 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Changed gentamycin dosing from daily to q8 hour given patient has
   CNS/endovascular infection
   - Patient on pressure support: [**7-25**]
   - Gave 1L D5W for hypernatremia, repeat sodium at 2100: 145
   - Gave 10mg of IV lasix in afternoon
   - Follow up head CT: no change.
   - Neuro thought that her exam shows more organized brainstem function,
   PERRL, dolls eyes (although still asymmetric), some flexion tone of the
   UE, but still not responsive to noxious stimuli.
   - Seizure activity this AM with right sided facial twitching, broke
   with 1mg ativan. Stat head CT pending. Neurology called, recommended
   600 mg IV keppra load if seizures not responsive to Ativan.
   - HCT noted to be down to 21, obtained CT abdomen/pelvis at same time
   as head CT
   - Noted to be hypokalemic this morning
   This morning, patient appears to be attempting to open eyes at times.
   No response to verbal or tactile stimuli. When abdomen pressed, patient
   appears to grimace minimally.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2124-9-24**] 02:02 AM
   Ampicillin - [**2124-9-24**] 04:02 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2124-9-23**] 05:45 PM
   Pantoprazole (Protonix) - [**2124-9-23**] 08:21 PM
   Heparin Sodium (Prophylaxis) - [**2124-9-24**] 12:19 AM
   Lorazepam (Ativan) - [**2124-9-24**] 04:20 AM
   Other medications:
   Gentamicin 100 mg IV Q8H (day 8), Keppra 1000 mg IV BID, Insulin SS,
   Pantoprazole 40 mg IV BID, Lactulose 30 mL TID, Colace [**Hospital1 **], Senna [**Hospital1 **],
   Ampicillin 2 gm IV Q4H (day 8), Albuterol, Tylenol, Heparin SQ TID,
   Chlorhexidine, Ativan PRN seizure, Bisacodyl
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2124-9-24**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 75 (75 - 104) bpm
   BP: 127/67(88) {106/51(70) - 143/76(102)} mmHg
   RR: 25 (20 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.3 kg (admission): 58.8 kg
   Height: 65 Inch
    CVP: 3 (3 - 10)mmHg
   Total In:
                                                                  2,176 mL
                                                                    986 mL
   PO:
   TF:
   IVF:
                                                                  2,176 mL
                                                                    986 mL
   Blood products:
   Total out:
                                                                  1,365 mL
                                                                    460 mL
   Urine:
                                                                  1,365 mL
                                                                    290 mL
   NG:
                                                                    170 mL
   Stool:
   Drains:
   Balance:
                                                                    811 mL
                                                                    526 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 377 (305 - 399) mL
   PS : 8 cmH2O
   RR (Set): 12
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 11 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.49/30/190/23/1
   Ve: 11 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General: Appears comfortable, trache in place. No spontaneous full eye
   opening, slight opening at times.
   HEENT: NC/AT. No scleral icterus. PERRL. Eyes remain focused at ceiling
   when head moved.
   Neck: Supple, flat JVP
   Cardiac: Regular, no m/g/r
   Lungs: Few rhonchi, no wheezing
   Abd: Slightly distended, no significant change. Tympanic to percussion.
   +BS, PEG in place
   Extr: Warm, + pitting edema of extremities (to ankles), no clubbing or
   cyanosis.
   Skin: No new lesions
   Neuro: PERRL. + Doll
s eyes. Remains hyperreflexic, tone overall
   appears normal in upper extremities aside from wrist which was slightly
   more flaccid than rest of arms
   Labs / Radiology
   77 K/uL
   7.6 g/dL
   108 mg/dL
   0.6 mg/dL
   23 mEq/L
   2.9 mEq/L
   17 mg/dL
   119 mEq/L
   144 mEq/L
   21.7 %
   5.2 K/uL
        [image002.jpg]
                             [**2124-9-21**]  05:35 AM
                             [**2124-9-21**]  03:06 PM
                             [**2124-9-22**]  03:46 AM
                             [**2124-9-22**]  02:30 PM
                             [**2124-9-22**]  11:52 PM
                             [**2124-9-23**]  12:07 AM
                             [**2124-9-23**]  04:10 AM
                             [**2124-9-23**]  04:30 AM
                             [**2124-9-23**]  04:52 PM
                             [**2124-9-24**]  04:08 AM
   WBC
   4.3
   6.9
   7.0
   5.2
   Hct
   21.7
   17.2
   25.1
   24.8
   24.8
   21.7
   Plt
   78
   98
   86
   77
   Cr
   0.6
   0.6
   0.6
   0.6
   TCO2
   24
   24
   24
   23
   Glucose
   157
   164
   92
   108
   Other labs: PT / PTT / INR:15.3/32.7/1.4, CK / CKMB /
   Troponin-T:36//<0.01, ALT / AST:29/29, Alk Phos / T Bili:144/1.4,
   Amylase / Lipase:160/197, Differential-Neuts:59.6 %, Lymph:36.0 %,
   Mono:1.4 %, Eos:2.8 %, D-dimer:1729 ng/mL, Fibrinogen:209 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:1.6 g/dL, LDH:328 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   [**9-22**] Bronchial washings: Gram negative rods >100,000 organisms on
   culture, no oropharyngeal flora
   Otherwise no new culture data
   Imaging:
   [**9-24**] CT head, abdomen/pelvis: reads pending
   Assessment and Plan
   Patient is a 60 year old female with past medical history of autoimmune
   disease, who presented with seizure, found to have Listeria bacteremia,
   meningitis, and likely Listeria brain abscess, status-post
   tracheostomy, with seizure overnight.
   .
   #) Respiratory failure: Patient intubated for airway protection in
   setting of altered mental status, now POD 2 from trach. Her elevated
   respiratory rate is likely secondary to her CNS process.
   -          Appreciate IP assistance. Currently doing well on pressure
   support [**7-25**]. Yesterday she was noted not to be breathing when
   spontaneous breathing trial was attempted. Will again complete SBT
   today.
   -          Will diurese as tolerated by blood pressure, but need to
   watch K and replete aggressively, given seizure at time of hypokalemia.
   .
   #) Listeria bacteremia and meningitis/encephalitis/abscess and
   resultant mental status:
   Listeria noted in blood and CSF cultures from [**9-15**] and [**9-16**]
   respectively. Her recently immuno-suppressed state secondary to
   treatment for auto-immune hepatitis may have pre-disposed her to
   infection. Serial head CT
s have been stable.  If there are any changes
   in her imaging concerning for worsening edema or bleeding, will
   re-consult neurosurgery. Given persistent fevers (although curve
   improving), TTE and TEE completed as noted (abnormal, but no definite
   abscess or vegetation). Overall fever curve is improving. EEG was not
   suggestive of convulsive status.
   - Ampicillin and gentimicin were started on [**9-17**] today is day 8.
   Following levels, which thus far have been at goal.
   - Appreciate ID and neurology input.
   - Will continue to follow culture data.
   - Keppra 1000 mg [**Hospital1 **] (now IV given cannot use PEG).
   - Neuro checks q2H
   - Lactulose being given in event that hepatic encephalopathy was
   playing role.
   - In event patient has decline or new imaging findings, will again
   address any benefits that decompression or drainage of possible
   empyema/abscess may have. Currently had no evidence of mass effect or
   significant edema on scans.
   - ID recommending repeat LP on tomorrow, will need to ensure that
   fungal, AFB, and modified cultures sent (eg to evaluate for Nocardia).
   - B-glucan repeated, pre- and post-ampicillin administration (over
   concerns that ampicillin could be causing elevated level). Will try to
   determine how lab samples may be distinguished, given they appear in
   OMR as having been collected at the same time.
   .
   #) Seizure: Patient with right facial twitching overnight felt to be
   seizure activity. This would be consistent in distribution given that
   her mass (presumed abscess) is in the left frontal area. It is possible
   that her hypokalemic state contributed to her seizure. Given lower HCT,
   concern was for bleed, however CT not supportive of this or of
   worsening edema/mass effect or other new pathology. Other consideration
   would be that seizures are less well controlled on keppra, given that
   phenytoin has been stopped and is likely now no longer therapeutic.
   Will discuss further with neurology if patient again has seizure
   without other possible explaniation. Checking electrolytes TID while
   diuresing, etc.
   .
   #) Pancytopenia: Per hematology consult, elevated MCV with pancytopenia
   is consistent with Imuran toxicity, with other possibilities being B12
   or folate deficiency, viral process, and less likely malignancy. B12
   and folate were WNL.
   Concern had been for hemolysis, however upon re-evaluation by
   hematology, smear was not consistent with this (FDP 10-40, haptoglobin
   was <20). No new medications or clear offending medications upon review
   of list.
   - This morning, HCT again down, CT ab/pelvis checked given recent
   procedure, no acute bleed upon prelim review.
   - Continue to monitor trend, transfuse if HCT <21-22 or symptoms.
   - TPMT returned positive, consistent with heterozyogous state, which
   suggests increased risk of myelosuppression with Imuran treatment.
   - Follow [**Hospital1 **]-TID HCT
   .
   #) Elevated INR: Stable, suspected to be secondary to nutritional
   deficiencies. Patient has received multiple doses of vitamin K as well
   as FFP's at presentation. Per hematology and laboratory values, DIC
   appears to be less likely, but still will continue to monitor for this
   possibility.
   - Continuing to follow head CT
s as well as coags every other day.
   .
   #) Elevated LFTs: Overall stable. RUQ consistent with liver disease, no
   other concerning pathology (no ductal dilation or gall bladder
   abnormalities noted. Amylase and lipase have been trending downward,
   AST/ALT WNL currently. T. bili trending downward.
           -      Will continue to trend lipase, amylase, LFTs.
   -          Some records obtained, continuing to obtain remainder from
   [**Doctor Last Name 918**] (fax sent again with husband
s consent).
   -          Records from [**Location (un) 841**] pending (faxed request x 2)
   .
   #) Hypernatremia: Improved with D5W, will continue to monitor again
   this PM, but given she cannot use her PEG yet, will likely need
   additional D5W (no worsening edema after D5W given).
   Given hypernatremia and hyperchloremia, will use LR for further fluid
   boluses.
   - Start D5W gently to decrease Na as pt is now NPO/NPG until at least
   Monday
   - Will continue to trend sodium, re-check this evening.
   .
   #) Question of increased pigmentation: Family provided history of
   darkening skin pigment over last months to years. This also was
   reported in her outpatient visits with her gastroenterologist (at that
   time, her T. Bili was 23). Appreciate dermatology input on this matter
   as well. No evidence of adrenal disease (Addison
s, or
   hemachromatosis).
   #) Gram negative rods in sputum: No consolidation, leukocytosis, or
   significant secretions to suggest true infection. No PMNs upon
   bronchial [**Last Name (LF) 1119**], [**First Name3 (LF) **] makes culture data difficult to interpret.
   Additionally, fever curve improving. Will have low threshold to
   initiate treatment should fever curve, secretions, or WBC worsen.
   #) Positive beta-glucan.  [**Month (only) 11**] be indicator of fungal infection,
   particularly given recent immunosuppression.
   - ID recs: difficult to interpret in context of abx, recommend
   rechecking, if positive could empirically tx
   -  Will attempt to determine which sample was pre and which was post
   ampicillin administration.
   #) PEG: Required two attempts, being monitored closely for evidence of
   leak in stomach/peritonitis. CT negative for acute change upon
   preliminary review this morning.
   - Gastrograffin study Monday
   - IP following
   ICU Care
   Nutrition:
   Holding TF until tomorrow (72 hrs) after PEG evaluated.
   Glycemic Control:  Insulin SS as needed
   Lines:
   Arterial Line - [**2124-9-15**] 01:37 PM
   Multi Lumen - [**2124-9-15**] 01:38 PM
   Prophylaxis:
   DVT: Heparin SQ TID
   Stress ulcer: PPI
   VAP:  Chlorhexidine/Head of bed elevated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   Correction: Yesterday, patient noted not to be taking adequate breaths
   on SBT, but was breathing.
   ------ Protected Section Addendum Entered By:[**Name (NI) 394**] [**Last Name (NamePattern1) 940**], MD
   on:[**2124-9-24**] 14:32 ------

2124-09-25 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Right sided facial twitching noted in afternoon at corner of mouth,
   did not break with 1 mg of ativan, broke with 2 mg, lasted about 3
   minutes total. Neurology called and recommended dilantin load 500 mg
   now, then 500 mg in AM, then 100 mg TID.
   - Transient hypotension after 3 mg of ativan (SBP 72-85), responded to
   500 cc LR bolus.
   - Changed gentamicin dosing to Q12H due to high levels.
   - Gastrograffin study will be done either Monday or Tuesday--IP will
   let team know
   - This AM had another episode of R facial twitching, less than 3
   minutes, treated with 1 mg Ativan
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2124-9-24**] 10:00 AM
   Ampicillin - [**2124-9-25**] 04:15 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2124-9-24**] 04:28 PM
   Pantoprazole (Protonix) - [**2124-9-24**] 08:19 PM
   Heparin Sodium (Prophylaxis) - [**2124-9-25**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-25**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98
   HR: 78 (71 - 83) bpm
   BP: 105/47(66) {83/42(60) - 129/63(84)} mmHg
   RR: 23 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.3 kg (admission): 58.8 kg
   Height: 65 Inch
    CVP: 5 (4 - 13)mmHg
   Total In:
                                                                  3,103 mL
                                                                    200 mL
   PO:
   TF:
   IVF:
                                                                  3,103 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,390 mL
                                                                    610 mL
   Urine:
                                                                  1,220 mL
                                                                    510 mL
   NG:
                                                                    170 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,713 mL
                                                                   -410 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 315 (315 - 374) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 72
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 11 L/min
   Physical Examination
   General: Appears comfortable, trache in place. No spontaneous full eye
   opening, slight opening at times.
   HEENT: NC/AT. No scleral icterus. PERRL. Eyes remain focused at ceiling
   when head moved.
   Neck: Supple, flat JVP
   Cardiac: Regular, no m/g/r
   Lungs: Few rhonchi, no wheezing
   Abd: Slightly distended, no significant change. Tympanitic to
   percussion. +BS, PEG in place
   Extr: Warm, + pitting edema of extremities (to ankles), no clubbing or
   cyanosis.
   Skin: No new lesions
   Neuro: PERRL. Remains hyperreflexic, no spontaneous movement
   Labs / Radiology
   67 K/uL
   7.9 g/dL
   70 mg/dL
   0.5 mg/dL
   21 mEq/L
   4.0 mEq/L
   14 mg/dL
   121 mEq/L
   144 mEq/L
   22.4 %
   3.7 K/uL
        [image002.jpg]
                             [**2124-9-22**]  02:30 PM
                             [**2124-9-22**]  11:52 PM
                             [**2124-9-23**]  12:07 AM
                             [**2124-9-23**]  04:10 AM
                             [**2124-9-23**]  04:30 AM
                             [**2124-9-23**]  04:52 PM
                             [**2124-9-24**]  04:08 AM
                             [**2124-9-24**]  11:34 AM
                             [**2124-9-24**]  03:42 PM
                             [**2124-9-25**]  04:03 AM
   WBC
   6.9
   7.0
   5.2
   3.7
   Hct
   25.1
   24.8
   24.8
   21.7
   22.0
   21.4
   22.4
   Plt
   98
   86
   77
   67
   Cr
   0.6
   0.6
   0.5
   0.5
   TCO2
   24
   24
   23
   Glucose
   92
   108
   77
   70
   Other labs: PT / PTT / INR:14.7/41.2/1.3, CK / CKMB /
   Troponin-T:36//<0.01, ALT / AST:27/29, Alk Phos / T Bili:143/1.5,
   Amylase / Lipase:163/205, Differential-Neuts:59.6 %, Lymph:36.0 %,
   Mono:1.4 %, Eos:2.8 %, D-dimer:1729 ng/mL, Fibrinogen:190 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:1.6 g/dL, LDH:307 IU/L, Ca++:7.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   MICRO:
   - [**9-22**] bronch: >100,000 GNR, yeast
 not treating
   IMAGING:
   - CTH [**9-24**]: No acute changes
   Assessment and Plan
   Patient is a 60 year old female with past medical history of autoimmune
   disease, who presented with seizure, found to have Listeria bacteremia,
   meningitis, and likely Listeria brain abscess, status-post
   tracheostomy, with seizure overnight.
   .
   #) Respiratory failure: Patient intubated for airway protection in
   setting of altered mental status, now POD 4 from trach. Her elevated
   respiratory rate is likely secondary to her CNS process.  RSBI 72
   today.
   -          Appreciate IP assistance. Currently doing well on pressure
   support [**7-25**].
   -          Will diurese as tolerated by blood pressure, but need to
   watch K and replete aggressively, given seizure at time of hypokalemia;
   pt required 2 fluid boluses yesterday for low BP.
   -          SBT again today
   .
   #) Listeria bacteremia and meningitis/encephalitis/abscess and
   resultant mental status:
   Listeria noted in blood and CSF cultures from [**9-15**] and [**9-16**]
   respectively. Her recently immuno-suppressed state secondary to
   treatment for auto-immune hepatitis may have pre-disposed her to
   infection. Serial head CT
s have been stable.  If there are any changes
   in her imaging concerning for worsening edema or bleeding, will
   re-consult neurosurgery. Given persistent fevers (although curve
   improving), TTE and TEE completed as noted (abnormal, but no definite
   abscess or vegetation). Overall fever curve is improving. EEG was not
   suggestive of convulsive status.
   - Ampicillin and gentimicin were started on [**9-17**]. Following levels,
   adjusted gent dosing to Q 12.
   - Appreciate ID and neurology input.
   - Will continue to follow culture data.
   - Keppra 1000 mg [**Hospital1 **] (now IV given cannot use PEG), added Dilantin
   given seizure activity, will discuss need for both agents.
   - Neuro checks q2H
   - Lactulose being given in event that hepatic encephalopathy was
   playing role.
   - In event patient has decline or new imaging findings, will again
   address any benefits that decompression or drainage of possible
   empyema/abscess may have. Currently had no evidence of mass effect or
   significant edema on scans.
   - ID recommending repeat LP on today, will need to ensure that fungal,
   AFB, and modified cultures sent (eg to evaluate for Nocardia).
   - B-glucan repeated, pre- and post-ampicillin administration (over
   concerns that ampicillin could be causing elevated level). Will try to
   determine how lab samples may be distinguished, given they appear in
   OMR as having been collected at the same time.
   .
   #) Seizure: Patient with right facial twitching overnight felt to be
   seizure activity. This would be consistent in distribution given that
   her mass (presumed abscess) is in the left frontal area. It is possible
   that her hypokalemic state contributed to her seizure. Given lower HCT,
   concern was for bleed, however CT not supportive of this or of
   worsening edema/mass effect or other new pathology. Other consideration
   would be that seizures are less well controlled on keppra, given that
   phenytoin has been stopped and is likely now no longer therapeutic.
   Will discuss further with neurology if patient again has seizure
   without other possible explanation. Checking electrolytes TID while
   diuresing, etc
   - F/U Neuro recs re: anticonvulsants
 Keppra 1500 [**Hospital1 **], Dilantin 100
   TID today, [**Hospital1 **] tomorrow, QD on Wednesday, then stop Dilantin
   .
   #) Pancytopenia: Per hematology consult, elevated MCV with pancytopenia
   is consistent with Imuran toxicity, with other possibilities being B12
   or folate deficiency, viral process, and less likely malignancy. B12
   and folate were WNL.
   Concern had been for hemolysis, however upon re-evaluation by
   hematology, smear was not consistent with this (FDP 10-40, haptoglobin
   was <20). No new medications or clear offending medications upon review
   of list.
   - This morning, HCT again down, CT ab/pelvis checked given recent
   procedure, no acute bleed upon prelim review.
   - Continue to monitor trend, transfuse if HCT <21-22 or symptoms.
   - TPMT returned positive, consistent with heterozyogous state, which
   suggests increased risk of myelosuppression with Imuran treatment.
   - Follow [**Hospital1 **]-TID HCTs.
   .
   #) Elevated INR: Stable, suspected to be secondary to nutritional
   deficiencies. Patient has received multiple doses of vitamin K as well
   as FFPs at presentation. Per hematology and laboratory values, DIC
   appears to be less likely, but still will continue to monitor for this
   possibility.
   - Continuing to follow head CTs as well as coags every other day.
   .
   #) Elevated LFTs: Overall stable. RUQ consistent with liver disease, no
   other concerning pathology (no ductal dilation or gall bladder
   abnormalities noted. Amylase and lipase have been trending downward,
   AST/ALT WNL currently. T. bili trending downward.
           -      Will continue to trend lipase, amylase, LFTs.
   -          Some records obtained, continuing to obtain remainder from
   [**Doctor Last Name 918**] (fax sent again with husband
s consent).
   -          Records from [**Location (un) 841**] pending (faxed request x 2)
   .
   #) Hypernatremia: Improved with D5W, will continue to monitor, but
   given she cannot use her PEG yet, will likely need additional D5W (no
   worsening edema after D5W given).
   Given hypernatremia and hyperchloremia, will use LR for further fluid
   boluses.
   - Start D5W gently to decrease Na as pt is now NPO/NPG until at least
   Monday
   - Will continue to trend sodium, re-check this evening.
   .
   #) Question of increased pigmentation: Family provided history of
   darkening skin pigment over last months to years. This also was
   reported in her outpatient visits with her gastroenterologist (at that
   time, her T. Bili was 23). Appreciate dermatology input on this matter
   as well. No evidence of adrenal disease (Addison
s, or
   hemachromatosis).
   #) Gram negative rods in sputum: No consolidation, leukocytosis, or
   significant secretions to suggest true infection. No PMNs upon
   bronchial [**Last Name (LF) 1119**], [**First Name3 (LF) **] makes culture data difficult to interpret.
   Additionally, fever curve improving. Will have low threshold to
   initiate treatment should fever curve, secretions, or WBC worsen.
   #) Positive beta-glucan.  [**Month (only) 11**] be indicator of fungal infection,
   particularly given recent immunosuppression.
   - ID recs: difficult to interpret in context of abx, recommend
   rechecking, if positive could empirically tx
   -  Will attempt to determine which sample was pre and which was post
   ampicillin administration.
   #) PEG: Required two attempts, being monitored closely for evidence of
   leak in stomach/peritonitis. CT negative for acute change upon
   preliminary review this morning.
   - Gastrograffin study Monday
   - IP following
   ICU Care
   Nutrition:
   Holding TF until PEG evaluated.
   Glycemic Control:  Insulin SS as needed
   Lines:
   Arterial Line - [**2124-9-15**] 01:37 PM
   Multi Lumen - [**2124-9-15**] 01:38 PM
   Prophylaxis:
   DVT: Heparin SQ TID
   Stress ulcer: PPI
   VAP:  Chlorhexidine/Head of bed elevated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2124-09-26 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CTH deferred until Tuesday, at time of planned gastrograffin study
   - Plan to complete lumbar puncture after head CT
   - On Keppra, Dilantin weaning (Keppra 1500 [**Hospital1 **], Dilantin 100 TID
   Monday, 100 [**Hospital1 **] Tuesday, 100 QD Wed, then stop Dilantin)
   - Had episode of subtle head moving, different from prior twitching of
   right cheek --> ceased after 1mg ativan
   This morning, no response to verbal or tactile stimuli.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2124-9-25**] 02:00 PM
   Daptomycin - [**2124-9-26**] 03:08 AM
   Ampicillin - [**2124-9-26**] 04:08 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-25**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2124-9-25**] 04:00 PM
   Lorazepam (Ativan) - [**2124-9-25**] 09:00 PM
   Other medications:
   Lorazepam 1 mg PRN seizure, Phenytoin 100 mg [**Hospital1 **], Keppra 1500 mg [**Hospital1 **],
   Insulin SS, Pantoprazole 40 mg IV BID, Lactulose, Colace, Senna,
   Albuterol, Tylenol, Heparin SQ TID, Chlorhexidine, Bisacodyl
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No changes
   Flowsheet Data as of  [**2124-9-26**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.7
C (96.2
   HR: 73 (73 - 82) bpm
   BP: 100/51(68) {89/37(52) - 164/102(123)} mmHg
   RR: 21 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.3 kg (admission): 58.8 kg
   Height: 65 Inch
    CVP: 8 (4 - 11)mmHg
   Total In:
                                                                  1,500 mL
                                                                    426 mL
   PO:
   TF:
   IVF:
                                                                  1,500 mL
                                                                    426 mL
   Blood products:
   Total out:
                                                                  1,345 mL
                                                                    250 mL
   Urine:
                                                                  1,245 mL
                                                                    250 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    155 mL
                                                                    176 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 310 (291 - 326) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 77
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.45/31/168/20/0
   Ve: 7 L/min
   PaO2 / FiO2: 420
   Physical Examination
   General: Appears comfortable, no response when name called
   HEENT: PERRL. No scleral icterus or conjunctival pallor. MMM
   Neck: Trach in place, site c/d/i. Supple
   Lungs: CTAB no w/r/r, transmitted upper airway noise
   Cardiac: Regular, no m/g/r
   Abd: Slightly distended but soft, +BS
   Extr: Warm, 2+ pitting edema to above calves
   Neuro: PERRL, no tracking of people or objects noted when eyes held
   open, eyes remain looking forward when head moved. No response to
   noxious stimuli (no withdrawal of extremities). Tone appears WNL in
   upper and lower extremities.
   Labs / Radiology
   82 K/uL
   8.6 g/dL
   58 mg/dL
   0.5 mg/dL
   20 mEq/L
   3.5 mEq/L
   14 mg/dL
   123 mEq/L
   146 mEq/L
   25.0 %
   3.7 K/uL
        [image002.jpg]
                             [**2124-9-23**]  12:07 AM
                             [**2124-9-23**]  04:10 AM
                             [**2124-9-23**]  04:30 AM
                             [**2124-9-23**]  04:52 PM
                             [**2124-9-24**]  04:08 AM
                             [**2124-9-24**]  11:34 AM
                             [**2124-9-24**]  03:42 PM
                             [**2124-9-25**]  04:03 AM
                             [**2124-9-25**]  12:09 PM
                             [**2124-9-26**]  04:27 AM
   WBC
   7.0
   5.2
   3.7
   3.7
   Hct
   24.8
   21.7
   22.0
   21.4
   22.4
   25.0
   Plt
   86
   77
   67
   82
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   TCO2
   24
   24
   23
   22
   Glucose
   92
   108
   77
   70
   58
   Other labs: PT / PTT / INR:14.4/63.2/1.3, CK / CKMB /
   Troponin-T:36//<0.01, ALT / AST:29/33, Alk Phos / T Bili:153/1.6,
   Amylase / Lipase:98/85, Differential-Neuts:59.6 %, Lymph:36.0 %,
   Mono:1.4 %, Eos:2.8 %, D-dimer:1729 ng/mL, Fibrinogen:211 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:1.7 g/dL, LDH:302 IU/L, Ca++:7.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Imaging:
   [**9-26**] Chest x-ray: Final read pending
   Culture data:
   [**9-22**] Bronchial washings culture: Pan-sensitive acinetobacter, Yeast on
   fungal culture
   [**9-22**] Blood culture: NGTD x2
   [**9-21**] Mini-BAL culture: Yeast
   [**9-20**] Blood culture: NGTD x2
   [**9-19**] Sputum culture: Gram negative rods (one with moderate, one with
   sparse growth), Yeast
   All other data remains unchanged.
   [**9-21**] and [**9-22**] Beta-glucan x2 pending
   Assessment and Plan
   Patient is a 60 year old female with past medical history of autoimmune
   disease, who presented with seizure, found to have Listeria bacteremia,
   meningitis, and likely Listeria brain abscess, status-post
   tracheostomy, with continued activity concerning for seizures.
   .
   #) Respiratory failure: Patient intubated for airway protection in
   setting of altered mental status, and underwent tracheostomy on
   [**2124-9-22**]. Her elevated respiratory rate is likely secondary to her CNS
   process.  RSBI 77 today.
   -          Appreciate IP assistance. Currently doing well on pressure
   support [**4-24**], so will transition to breathing trial and re-check ABG
   afterwards, with transition to trach mask if possible.
   .
   #) Listeria bacteremia and meningitis/encephalitis/abscess and
   resultant mental status:
   Listeria noted in blood and CSF cultures from [**9-15**] and [**9-16**]
   respectively. Her recently immuno-suppressed state secondary to
   treatment for auto-immune hepatitis may have pre-disposed her to
   infection. Serial head CT
s have been stable.  If there are any changes
   in her imaging concerning for worsening edema or bleeding, will
   re-consult neurosurgery. Given persistent fevers (although curve
   improving), TTE and TEE completed as noted (abnormal, but no definite
   abscess or vegetation). Overall fever curve is improving. EEG was not
   suggestive of convulsive status, however there is concern for
   intermittent seizure activity (twitching of right cheek,
   opening/closing of mouth, moving of head).
   - Ampicillin and gentimicin were started on [**9-17**]. Following levels,
   adjusted gent dosing to Q 12. (Today is day 10)
   - Appreciate ID and neurology input.
   - Will continue to follow culture data, and plan to repeat LP today
   after CT head, to send for fungal, AFB, modified cultures (to exclude
   Nocardia).
   - Neuro checks q2H
   - Lactulose being given in event that hepatic encephalopathy was
   playing role (once can give PO
s again)
   - B-glucan repeated, pre- and post-ampicillin administration (over
   concerns that ampicillin could be causing elevated level). Will look
   for change in level (since both samples timed alike).
   .
   #) Seizure: Patient has had intermittent movements that could be
   consistent with seizures, such as right facial twitching, mouth
   movement, and head shaking. This would be consistent in distribution
   given that her mass (presumed abscess) is in the left frontal area. It
   is difficult to say if these activities have been seizures, and they
   have stopped after administration of ativan.
   - Requested 24 EEG monitoring to assess if activities correlate with
   EEG evidence of seizures (EEG had not suggestive of non-convulsive
   status)
   - Increased Keppra to 1500 mg [**Hospital1 **], Dilantin 100 [**Hospital1 **] today, then 100
   daily, then stop
   - Repeat head CT today.
   .
   #) Pancytopenia: Stable. Per hematology consult, elevated MCV with
   pancytopenia is consistent with Imuran toxicity, with other
   possibilities being B12 or folate deficiency, viral process, and less
   likely malignancy. B12 and folate were WNL.
   Concern had been for hemolysis, however upon re-evaluation by
   hematology, smear was not consistent with this (FDP 10-40, haptoglobin
   was <20). No new medications or clear offending medications upon review
   of list.
   - This morning, HCT again down, CT ab/pelvis checked given recent
   procedure, no acute bleed upon prelim review.
   - Continue to monitor [**Hospital1 1174**], transfuse if HCT <21-22 or symptoms.
   - TPMT returned positive, consistent with heterozyogous state, which
   suggests increased risk of myelosuppression with Imuran treatment.
   .
   #) Elevated Coagulation Studies: PTT increased today, suspect likely
   secondary to systemic absorption of subcutaneous heparin. Her elevated
   INR had been felt to be secondary to nutritional deficiencies and liver
   disease. Per hematology and laboratory values, DIC appears to be less
   likely, but still will continue to monitor for this possibility.
   - Following [**Last Name (LF) 1174**], [**First Name3 (LF) 116**] need to ensure PTT is lower (eg <40) prior to
   LP today.
   - Holding SQ heparin today.
   .
   #) Elevated LFTs: Overall stable. RUQ consistent with liver disease, no
   other concerning pathology (no ductal dilation or gall bladder
   abnormalities noted. Amylase and lipase have been trending downward,
   AST/ALT WNL currently. T. bili trending downward.
           -      Will continue to [**First Name3 (LF) 1174**] lipase, amylase, LFTs.
   -          Some records obtained, continuing to obtain remainder from
   [**Doctor Last Name 918**] (fax sent again with husband
s consent).
   -          Records from [**Location (un) 841**] pending (faxed request x 2)
   .
   #) Hypernatremia: Maintanence fluids with D5W, since cannot use PEG
   yet. Will switch to FW flushes once PEG is usable.
   - Will continue to [**Location (un) 1174**] sodium, re-check this evening.
   .
   #) Question of increased pigmentation: Family provided history of
   darkening skin pigment over last months to years. This also was
   reported in her outpatient visits with her gastroenterologist (at that
   time, her T. Bili was 23). Appreciate dermatology input on this matter
   as well. No evidence of adrenal disease (Addison
s, or
   hemachromatosis).
   #) Acinetobacter in sputum: No consolidation, leukocytosis, or
   significant secretions to suggest true infection. Fevers have resolved.
   No PMNs upon bronchial [**Last Name (LF) 1119**], [**First Name3 (LF) **] makes culture data difficult to
   interpret, but suspect colonization.
   - Contact precautions.
   .
   #) Positive beta-glucan.  [**Month (only) 11**] be indicator of fungal infection,
   particularly given recent immunosuppression.
   - ID recs: difficult to interpret in context of abx, recommend
   rechecking, if positive could empirically tx
   -  Will attempt to determine which sample was pre and which was post
   ampicillin administration.
   #) PEG: Required two attempts, being monitored closely for evidence of
   leak in stomach/peritonitis. CT negative for acute change upon
   preliminary review this morning.
   - Gastrograffin study today, will follow up results
   - IP following
   ICU Care
   Nutrition:
   NPO, anticipate starting TF
s if CT abdomen WNL
   Glycemic Control:  Insulin sliding scale if needed
   Lines:
   Arterial Line - [**2124-9-15**] 01:37 PM
   Multi Lumen - [**2124-9-15**] 01:38 PM
   Prophylaxis:
   DVT: Holding today
s dose of Heparin SQ until repeat coag
   Stress ulcer:  PPI
   VAP:  Chlorhexidine, Head of bed elevated
   Comments:
   Communication:  Comments: Family meeting to take place end of this week
   or next week to discuss longer term plans.
   Code status: Full code
   Disposition: ICU for now for further monitoring, if continues to
   tolerate trach mask well, will consider rehab at some point after
   patient is stable and needs no additional studies.

2124-09-27 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2124-9-26**] 11:30 AM
   - Patient switched over to trach mask yesterday morning, has tolerated
   it well for 24 hours.
   - Preliminary head CT negative for interval change.
   - Preliminary gastrograffin study: Negative for [**Year (4 digits) 1199**]. Tube feeds
   re-started
   - Neurology recommended repeat MRI with contrast and MR spectroscopy
   with arterial spin labeling
   - Routine EEG completed, read pending; will be set up for continuous
   EEG today.
   - Re-check of PTT was down to 44 after subcutaneous heparin held
   - Received lasix 10 mg IV for diuresis
   - Planning for LP today
   This morning, no response to verbal, tactile, or noxious stimuli.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2124-9-26**] 03:08 AM
   Gentamicin - [**2124-9-27**] 02:00 AM
   Ampicillin - [**2124-9-27**] 07:36 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-9-26**] 08:01 AM
   Lorazepam (Ativan) - [**2124-9-26**] 08:10 AM
   Furosemide (Lasix) - [**2124-9-27**] 01:07 AM
   Pantoprazole (Protonix) - [**2124-9-27**] 07:36 AM
   Other medications:
   Phenytoin 100 mg daily, Keppra 1500 mg [**Hospital1 **], Gentamicin 100 mg IV Q12H,
   Insulin SS, Pantoprazole 40  mg IV Q12H, Lactulose, Colace, Senna,
   Ampicillin 2gm IV Q4H, Albuterol, Chlorhexidine, Bisacodyl
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2124-9-27**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 82 (72 - 94) bpm
   BP: 114/63(81) {82/45(64) - 128/79(99)} mmHg
   RR: 25 (13 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.3 kg (admission): 58.8 kg
   Height: 65 Inch
    CVP: 5 (2 - 20)mmHg
   Total In:
                                                                  2,321 mL
                                                                    913 mL
   PO:
   TF:
                                                                    145 mL
   IVF:
                                                                  2,321 mL
                                                                    617 mL
   Blood products:
   Total out:
                                                                    833 mL
                                                                  1,295 mL
   Urine:
                                                                    833 mL
                                                                  1,295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,488 mL
                                                                   -382 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 4,668 (4,668 - 4,668) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: 7.43/31/106/20/-2 (4 AM)
   PaO2 / FiO2: 265
   Physical Examination
   General: No response to stimuli as noted above. No spontaneous
   movements noted. In no distress
   HEENT: NC/AT. PERRL, no spontaneous eye movement noted. No scleral
   icterus. Moist mucous membranes.
   Neck: Supple.
   Lungs: No wheezes or rhonchi appreciated. Decreased BS at bases, +
   bilateral breath sounds.
   Cardiac: Regular rate, no murmurs/gallops/rubs appreciated
   Abd: Soft, very mild distension, NT, +BS, PEG in place
   Extr: Diffusely edematous, more notable in bilateral upper extremities
   today, warm, no clubbing or cyanosis.
   Neuro: No response to verbal, tactile, noxious stimuli, PERRL, reflexes
   unchanged. Tone WNL in extremities.
   Labs / Radiology
   90 K/uL
   9.1 g/dL
   122 mg/dL
   0.6 mg/dL
   20 mEq/L
   3.8 mEq/L
   12 mg/dL
   120 mEq/L
   145 mEq/L
   25.5 %
   3.0 K/uL
        [image002.jpg]
                             [**2124-9-24**]  11:34 AM
                             [**2124-9-24**]  03:42 PM
                             [**2124-9-25**]  04:03 AM
                             [**2124-9-25**]  12:09 PM
                             [**2124-9-26**]  04:27 AM
                             [**2124-9-26**]  11:54 AM
                             [**2124-9-26**]  01:43 PM
                             [**2124-9-26**]  09:11 PM
                             [**2124-9-27**]  04:15 AM
                             [**2124-9-27**]  04:55 AM
   WBC
   3.7
   3.7
   3.0
   Hct
   22.0
   21.4
   22.4
   25.0
   25.5
   Plt
   67
   82
   90
   Cr
   0.5
   0.5
   0.5
   0.5
   0.6
   TCO2
   22
   21
   21
   21
   Glucose
   77
   70
   58
   105
   122
   Other labs: PT / PTT / INR:14.4(14.8)/40.0 (44.9)/1.3 (1.3),  ALT /
   AST:30(29)/35(32), Alk Phos / T Bili:166(148)/1.7(1.6), Amylase /
   Lipase:66(98)/64(85), Differential-Neuts:66.9 %, Lymph:24.5 %, Mono:5.9
   %, Eos:2.5 %, D-dimer:1729 ng/mL, Fibrinogen:211(yesterday) mg/dL,
   Albumin:1.6 g/dL, LDH:315 IU/L, Ca++:7.1 mg/dL, Mg++:1.9 mg/dL, PO4:1.7
   mg/dL
   Gentamicin Trough 1.5, 4.9 Peak
   [**9-21**], [**9-22**] x2 Beta-glucan pending
   Culture data:
   [**9-26**] Sputum >25 PMN, 4+ GNR on gram stain, culture NGTD
   Otherwise no new culture data
   Imaging:
   [**9-26**] CT Abdomen: Wet read: No [**Month/Day (4) 1199**]
   [**9-26**] CT Head: Wet read: No change from prior
   [**9-27**] Chest x-ray: Final read pending, more notable pleural effusions
   bilaterally, especially on right, no focal consolidations noted
   Assessment and Plan
   Patient is a 60 year old female with past medical history of autoimmune
   disease, who presented with seizure, found to have Listeria bacteremia,
   meningitis, and likely Listeria brain abscess, status-post
   tracheostomy, doing well on trach mask, with possible continued
   intermittent seizures.
   .
   #) Respiratory failure: Patient intubated for airway protection in
   setting of altered mental status, and underwent tracheostomy on
   [**2124-9-22**]. She has done well on trach mask for over 24 hours now, with
   a re-assuring ABG. Will continue on trach mask with Fi02 of 50%, wean
   FiO2 if possible, follow up ABG in AM, or if patient has other acute
   change.
   .
   #) Listeria bacteremia and meningitis/encephalitis/abscess and
   resultant mental status:
   Listeria noted in blood and CSF cultures from [**9-15**] and [**9-16**]
   respectively. Her recently immuno-suppressed state secondary to
   treatment for auto-immune hepatitis may have pre-disposed her to
   infection. Serial head CT
s have been stable. TTE and TEE completed as
   noted (abnormal, but no definite abscess or vegetation). Currently, her
   fevers have resolved, however no change in mental status. EEG was not
   suggestive of convulsive status, however there is concern for
   intermittent seizure activity (twitching of right cheek,
   opening/closing of mouth, moving of head).
   - Ampicillin and gentimicin were started on [**9-17**]. Following levels,
   adjusted gent dosing to Q 12. (Today is day 11)
   - Appreciate ID and neurology input.
   - Will continue to follow culture data, and plan to repeat LP today to
   send for fungal, AFB, modified cultures (to exclude Nocardia), given
   PTT is normal this morning after holding subcutaneous heparin.
   - Neuro checks q2H
   - Lactulose being given in event that hepatic encephalopathy was
   playing role (once can give PO
s again)
   - B-glucan repeated, pre- and post-ampicillin administration (over
   concerns that ampicillin could be causing elevated level). Will look
   for change in level (since both samples timed alike).
   - MR with contrast and MR spectroscopy to be completed to evaluate for
   other etiologies of frontal mass, as per discussion with neurology team
   after interdisciplinary conference, there is concern that her mass is
   not completely consistent with a listeria abscess. MR spectroscopy
   could help evaluate for lymphoma.
   .
   #) Seizure: No abnormal movements noted over last 24 hours. Prior to
   that time, patient has had intermittent movements that could be
   consistent with seizures, such as right facial twitching, mouth
   movement, and head shaking. This would be consistent in distribution
   given that her mass (presumed abscess) is in the left frontal area. It
   is difficult to say if these activities have been seizures, and they
   have stopped after administration of ativan.
   - Requested 24 EEG monitoring to assess if activities correlate with
   EEG evidence of seizures (EEG had not suggestive of non-convulsive
   status), which is being set up today. Routine EEG completed yesterday,
   will follow up results.
   - Increased Keppra to 1500 mg [**Hospital1 **], Dilantin 100 once today, then stop
   - Will follow up final head CT and MR to be done today.
   .
   #) Pancytopenia: Stable. Per hematology consult, elevated MCV with
   pancytopenia is consistent with Imuran toxicity, with other
   possibilities being B12 or folate deficiency, viral process, and less
   likely malignancy. B12 and folate were WNL.
   Concern had been for hemolysis, however upon re-evaluation by
   hematology, smear was not consistent with this (FDP 10-40, haptoglobin
   was <20). No new medications or clear offending medications upon review
   of list.
   - Continue to monitor trend, transfuse if HCT <21-22 or symptoms.
   - TPMT returned positive, consistent with heterozyogous state, which
   suggests increased risk of myelosuppression with Imuran treatment.
   .
   #) Elevated Coagulation Studies: PTT down after holding subcutaneous
   heparin, suspect this was secondary to systemic absorption of
   subcutaneous heparin. Her elevated INR had been felt to be secondary to
   nutritional deficiencies and liver disease. Per hematology and
   laboratory values, DIC appears to be less likely, but still will
   continue to monitor for this possibility.
   - Holding SQ heparin today until after LP, then will re-start at [**Hospital1 **]
   dosing.
   .
   #) Elevated LFTs: Overall stable. RUQ consistent with liver disease, no
   other concerning pathology (no ductal dilation or gall bladder
   abnormalities noted. Amylase and lipase have been trending downward,
   AST/ALT WNL currently.
           -      Will continue to trend lipase, amylase, LFTs.
   -          Some records obtained, continuing to obtain remainder from
   [**Doctor Last Name 918**] (fax sent again with husband
s consent).
   -          Records from [**Location (un) 841**] pending (faxed request x 2)
   .
   #) Hypernatremia: Re-starting free water flushes, will re-check PM
   sodium.
   .
   #) Question of increased pigmentation: Family provided history of
   darkening skin pigment over last months to years. This also was
   reported in her outpatient visits with her gastroenterologist (at that
   time, her T. Bili was 23). Appreciate dermatology input on this matter
   as well. No evidence of adrenal disease (Addison
s, or
   hemachromatosis).
   #) Acinetobacter in sputum: No consolidation, leukocytosis, or
   significant secretions to suggest true infection. Fevers have resolved.
   No PMNs upon bronchial [**Last Name (LF) 1119**], [**First Name3 (LF) **] makes culture data difficult to
   interpret, but suspect colonization.
   - Contact precautions, will follow up repeat sputum culture (NGTD)
   .
   #) Positive beta-glucan.  [**Month (only) 11**] be indicator of fungal infection,
   particularly given recent immunosuppression.
   - ID recs: difficult to interpret in context of abx, recommend
   rechecking, if positive could empirically tx
   -  Will attempt to determine which sample was pre and which was post
   ampicillin administration, but will look for change.
   #) PEG: Required two attempts, being monitored closely for evidence of
   [**Month (only) 1199**] in stomach/peritonitis. CT negative for acute change upon
   preliminary review this morning.
   - Gastrograffin study preliminary results without [**Last Name (LF) 1199**], [**First Name3 (LF) 116**] follow up
   final results.
   - IP following
   #) FEN: Will attempt to gently diurese today given extensive peripheral
   edema.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2124-9-27**] 02:05 AM 35 mL/hour; re-started
   now that PEG is usable.
   Glycemic Control:  Insulin sliding scale if needed
   Lines:
   Arterial Line - [**2124-9-15**] 01:37 PM
   Multi Lumen - [**2124-9-15**] 01:38 PM
   * Will plan to d/c CVL and place PICC today given she has no need for
   CVL currently, and has had no (+) blood cultures.
   Prophylaxis:
   DVT: Pneumoboots, holding heparin SQ until after LP
   Stress ulcer: PPI
   VAP:  Chlorhexidine, Head of bed elevated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2124-09-28 08:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2124-9-27**] 10:30 AM
 BLOOD CULTURED - At [**2124-9-27**] 09:51 PM
 URINE CULTURE - At [**2124-9-28**] 03:48 AM
   - Continuous EEG set up
   - Episode of tachypnea (33), shaking with expiration after suctionned,
   resolved without intervention
   - Fever to 100.5--re-cultured
   - Routine EEG:
   Abnormal EEG due to a slowed and disorganized waking
   rhythm. This is consistent with a diffuse mild to moderate
   encephalopathy. (No change)
   - LP deferred until after 24 hr EEG completed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2124-9-26**] 03:08 AM
   Gentamicin - [**2124-9-28**] 02:12 AM
   Ampicillin - [**2124-9-28**] 07:37 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2124-9-27**] 03:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-28**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.3
C (99.1
   HR: 91 (84 - 106) bpm
   BP: 112/59(78) {94/48(66) - 147/82(106)} mmHg
   RR: 25 (19 - 38) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.3 kg (admission): 58.8 kg
   Height: 65 Inch
    CVP: 7 (2 - 9)mmHg
   Total In:
                                                                  2,632 mL
                                                                    890 mL
   PO:
   TF:
                                                                    352 mL
                                                                     80 mL
   IVF:
                                                                  1,430 mL
                                                                    660 mL
   Blood products:
   Total out:
                                                                  2,522 mL
                                                                    266 mL
   Urine:
                                                                  2,522 mL
                                                                    266 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    110 mL
                                                                    624 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: 7.41/35/120/20/-1
   PaO2 / FiO2: 240
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   94 K/uL
   8.2 g/dL
   108 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.3 mEq/L
   10 mg/dL
   119 mEq/L
   144 mEq/L
   23.6 %
   3.2 K/uL
        [image002.jpg]
                             [**2124-9-25**]  12:09 PM
                             [**2124-9-26**]  04:27 AM
                             [**2124-9-26**]  11:54 AM
                             [**2124-9-26**]  01:43 PM
                             [**2124-9-26**]  09:11 PM
                             [**2124-9-27**]  04:15 AM
                             [**2124-9-27**]  04:55 AM
                             [**2124-9-27**]  06:31 PM
                             [**2124-9-28**]  03:49 AM
                             [**2124-9-28**]  04:38 AM
   WBC
   3.7
   3.0
   3.2
   Hct
   25.0
   25.5
   23.6
   Plt
   82
   90
   94
   Cr
   0.5
   0.5
   0.6
   0.7
   TCO2
   22
   21
   21
   21
   21
   23
   Glucose
   58
   105
   122
   108
   Other labs: PT / PTT / INR:15.5/38.3/1.4, CK / CKMB /
   Troponin-T:36//<0.01, ALT / AST:35/46, Alk Phos / T Bili:236/1.6,
   Amylase / Lipase:66/64, Differential-Neuts:66.9 %, Lymph:24.5 %,
   Mono:5.9 %, Eos:2.5 %, D-dimer:1729 ng/mL, Fibrinogen:211 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:1.7 g/dL, LDH:419 IU/L, Ca++:7.1 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   Patient is a 60 year old female with past medical history of autoimmune
   disease, who presented with seizure, found to have Listeria bacteremia,
   meningitis, and likely Listeria brain abscess, status-post
   tracheostomy, doing well on trach mask, with possible continued
   intermittent seizures.
   .
   #) Respiratory failure: Patient intubated for airway protection in
   setting of altered mental status, and underwent tracheostomy on
   [**2124-9-22**]. She has done well on trach mask for over 24 hours now, with
   a re-assuring ABG. Will continue on trach mask with Fi02 of 50%, wean
   FiO2 if possible, follow up ABG in AM, or if patient has other acute
   change.
   .
   #) Listeria bacteremia and meningitis/encephalitis/abscess and
   resultant mental status:
   Listeria noted in blood and CSF cultures from [**9-15**] and [**9-16**]
   respectively. Her recently immuno-suppressed state secondary to
   treatment for auto-immune hepatitis may have pre-disposed her to
   infection. Serial head CT
s have been stable. TTE and TEE completed as
   noted (abnormal, but no definite abscess or vegetation). Currently, her
   fevers have resolved, however no change in mental status. EEG was not
   suggestive of convulsive status, however there is concern for
   intermittent seizure activity (twitching of right cheek,
   opening/closing of mouth, moving of head).
   - Ampicillin and gentimicin were started on [**9-17**]. Following levels,
   adjusted gent dosing to Q 12. (Today is day 11)
   - Appreciate ID and neurology input.
   - Will continue to follow culture data, and plan to repeat LP today to
   send for fungal, AFB, modified cultures (to exclude Nocardia), given
   PTT is normal this morning after holding subcutaneous heparin.
   - Neuro checks q2H
   - Lactulose being given in event that hepatic encephalopathy was
   playing role (once can give PO
s again)
   - B-glucan repeated, pre- and post-ampicillin administration (over
   concerns that ampicillin could be causing elevated level). Will look
   for change in level (since both samples timed alike).
   - MR with contrast and MR spectroscopy to be completed to evaluate for
   other etiologies of frontal mass, as per discussion with neurology team
   after interdisciplinary conference, there is concern that her mass is
   not completely consistent with a listeria abscess. MR spectroscopy
   could help evaluate for lymphoma.
   .
   #) Seizure: No abnormal movements noted over last 24 hours. Prior to
   that time, patient has had intermittent movements that could be
   consistent with seizures, such as right facial twitching, mouth
   movement, and head shaking. This would be consistent in distribution
   given that her mass (presumed abscess) is in the left frontal area. It
   is difficult to say if these activities have been seizures, and they
   have stopped after administration of ativan.
   - Requested 24 EEG monitoring to assess if activities correlate with
   EEG evidence of seizures (EEG had not suggestive of non-convulsive
   status), which is being set up today. Routine EEG completed yesterday,
   will follow up results.
   - Increased Keppra to 1500 mg [**Hospital1 **], Dilantin 100 once today, then stop
   - Will follow up final head CT and MR to be done today.
   .
   #) Pancytopenia: Stable. Per hematology consult, elevated MCV with
   pancytopenia is consistent with Imuran toxicity, with other
   possibilities being B12 or folate deficiency, viral process, and less
   likely malignancy. B12 and folate were WNL.
   Concern had been for hemolysis, however upon re-evaluation by
   hematology, smear was not consistent with this (FDP 10-40, haptoglobin
   was <20). No new medications or clear offending medications upon review
   of list.
   - Continue to monitor trend, transfuse if HCT <21-22 or symptoms.
   - TPMT returned positive, consistent with heterozyogous state, which
   suggests increased risk of myelosuppression with Imuran treatment.
   .
   #) Elevated Coagulation Studies: PTT down after holding subcutaneous
   heparin, suspect this was secondary to systemic absorption of
   subcutaneous heparin. Her elevated INR had been felt to be secondary to
   nutritional deficiencies and liver disease. Per hematology and
   laboratory values, DIC appears to be less likely, but still will
   continue to monitor for this possibility.
   - Holding SQ heparin today until after LP, then will re-start at [**Hospital1 **]
   dosing.
   .
   #) Elevated LFTs: Overall stable. RUQ consistent with liver disease, no
   other concerning pathology (no ductal dilation or gall bladder
   abnormalities noted. Amylase and lipase have been trending downward,
   AST/ALT WNL currently.
           -      Will continue to trend lipase, amylase, LFTs.
   -          Some records obtained, continuing to obtain remainder from
   [**Doctor Last Name 918**] (fax sent again with husband
s consent).
   -          Records from [**Location (un) 841**] pending (faxed request x 2)
   .
   #) Hypernatremia: Re-starting free water flushes, will re-check PM
   sodium.
   .
   #) Question of increased pigmentation: Family provided history of
   darkening skin pigment over last months to years. This also was
   reported in her outpatient visits with her gastroenterologist (at that
   time, her T. Bili was 23). Appreciate dermatology input on this matter
   as well. No evidence of adrenal disease (Addison
s, or
   hemachromatosis).
   #) Acinetobacter in sputum: No consolidation, leukocytosis, or
   significant secretions to suggest true infection. Fevers have resolved.
   No PMNs upon bronchial [**Last Name (LF) 1119**], [**First Name3 (LF) **] makes culture data difficult to
   interpret, but suspect colonization.
   - Contact precautions, will follow up repeat sputum culture (NGTD)
   .
   #) Positive beta-glucan.  [**Month (only) 11**] be indicator of fungal infection,
   particularly given recent immunosuppression.
   - ID recs: difficult to interpret in context of abx, recommend
   rechecking, if positive could empirically tx
   -  Will attempt to determine which sample was pre and which was post
   ampicillin administration, but will look for change.
   #) PEG: Required two attempts, being monitored closely for evidence of
   [**Month (only) 1199**] in stomach/peritonitis. CT negative for acute change upon
   preliminary review this morning.
   - Gastrograffin study preliminary results without [**Last Name (LF) 1199**], [**First Name3 (LF) 116**] follow up
   final results.
   - IP following
   #) FEN: Will attempt to gently diurese today given extensive peripheral
   edema.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2124-9-27**] 02:05 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2124-9-15**] 01:37 PM
   Multi Lumen - [**2124-9-15**] 01:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-09-29 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - 24 hour EEG monitoring --> final read pending
   - MRI brain to be completed this morning
   - PICC line placed, Left subclavian removed, tip sent for culture
   - Lumbar puncture performed: gram stain demonstrated no PMNs or
   organisms
   - ID will make formal recommendations re: beta-glucan and whether
   empiric treatment with antifungals is warranted
   - Will need to discuss with ID & neurosurgery need for tissue biopsy
   - Weaned to FiO2 of 40%
   This morning as patient leaving for MRI, right cheek twitching noted,
   broke with 1 mg of Ativan.  Grimaced in response to noxious stimuli of
   right hand, foot, and left foot.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2124-9-29**] 03:06 AM
   Ampicillin - [**2124-9-29**] 04:26 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-28**] 08:06 AM
   Other medications:
   Gentamicin 120 mg Q12H, Keppra 1500 mg [**Hospital1 **], Ativan 1 mg IV PRN,
   Pantoprazole 40 mg Q12H IV, Lactulose, Colace, Senna, Ampicillin 2gm IV
   Q4H, Albuterol, Tylenol, Chlorhexidine, Potassium Sliding Scale,
   Bisacodyl
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2124-9-29**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.1
   HR: 95 (90 - 98) bpm
   BP: 136/73(98) {108/52(74) - 142/80(101)} mmHg
   RR: 39 (16 - 39) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.3 kg (admission): 58.8 kg
   Height: 65 Inch
    CVP: 6 (3 - 6)mmHg
   Total In:
                                                                  3,100 mL
                                                                    896 mL
   PO:
   TF:
                                                                    495 mL
                                                                    265 mL
   IVF:
                                                                  1,590 mL
                                                                    436 mL
   Blood products:
   Total out:
                                                                  1,199 mL
                                                                    405 mL
   Urine:
                                                                  1,199 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,901 mL
                                                                    491 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General: Comfortable, in NAD. No spontaneous movement noted
   HEENT: NC/AT. MMM, PEERL, no scleral icterus or conjunctival pallor
   Neck: Supple
   Lungs: CTAB, occasional rhonchi, no wheezes
   Cardiac: Regular, no m/g/r
   Abdomen: Soft, NT, ND, +BS
   Extr: Warm, pitting edema, few ecchymoses
   Neuro: Grimaced in response to noxious stimuli of right hand, foot,
   withdrew from discomfort , PERRL, no spontaneous movement noted.
   Occulocephalic reflexes intact.
   Skin: Warm, no jaundice
   Labs / Radiology
   84 K/uL
   7.6 g/dL
   126 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.3 mEq/L
   8 mg/dL
   118 mEq/L
   143 mEq/L
   22.7 %
   2.6 K/uL
        [image002.jpg]
                             [**2124-9-26**]  04:27 AM
                             [**2124-9-26**]  11:54 AM
                             [**2124-9-26**]  01:43 PM
                             [**2124-9-26**]  09:11 PM
                             [**2124-9-27**]  04:15 AM
                             [**2124-9-27**]  04:55 AM
                             [**2124-9-27**]  06:31 PM
                             [**2124-9-28**]  03:49 AM
                             [**2124-9-28**]  04:38 AM
                            [**2124-9-29**]  04:03 AM
   WBC
   3.7
   3.0
   3.2
   2.6
   Hct
   25.0
   25.5
   23.6
   22.7
   Plt
   82
   90
   94
   84
   Cr
   0.5
   0.5
   0.6
   0.7
   0.6
   TCO2
   21
   21
   21
   21
   23
   Glucose
   58
   105
   122
   108
   126
   4:00 AM Genta Peak 4.8, Trough 1.6
   ALT 35 (35)
   AST 57 (46)
   AP 300 (236)
   LDH 442 (419)
   T. Bili 1.6 (1.6)
   Alb 1.8 (1.7)
   PT 16.3  (15.5)  PTT 41.9 (38.3)   INR 1.5 (1.4)
   Ca 6.8, Mg 1.6, P 2.0
   Lumbar Puncture:
   Tube 1
   WBC 14 (Poly 2, Lymph 89, Mono 0), RBC 634, Atyps 3, Macroph 6
   Tube 2
   Protein  89, Glucose 58, LDH 48
   Tube 4
   WBC 33 (Poly 1, Lymph 96, Mono 0), Macroph 3
   CSF Immunotyping Pending
   Micro:
   [**9-28**] CSF Gram stain: 0 PMN, no organisms seen, cryptococcal antigen
   negative
   [**9-28**] CVL tip culture: NGTD
   [**9-28**] Urine culture NGTD
   [**9-27**] Blood culture NGTD x2
   Otherwise no new culture data
   Assessment and Plan
   Patient is a 60 year old female with past medical history of autoimmune
   disease, who presented with seizure, found to have Listeria bacteremia,
   meningitis, and likely Listeria brain abscess, status-post
   tracheostomy, doing well on trach mask, with some withdrawal to noxious
   stimuli today.
   .
   #) Respiratory failure: Patient intubated for airway protection in
   setting of altered mental status, and underwent tracheostomy on
   [**2124-9-22**]. She has done well on trach mask for over 48 hours now, with
   a re-assuring ABG. No significant secretions to suggest pneumonia.
   Continuing to wean FiO2, currently at 40%.
   .
   #) Listeria bacteremia and meningitis/encephalitis/abscess and
   resultant mental status:
   Listeria noted in blood and CSF cultures from [**9-15**] and [**9-16**]
   respectively. Her recently immuno-suppressed state secondary to
   treatment for auto-immune hepatitis may have pre-disposed her to
   infection. Serial head CT
s have been stable. TTE and TEE completed as
   noted (abnormal, but no definite abscess or vegetation. EEG was not
   suggestive of convulsive status, however there is concern for
   intermittent seizure activity (twitching of right cheek,
   opening/closing of mouth, moving of head).
   - Ampicillin and gentimicin were started on [**9-17**]. Following levels,
   adjusted gent dosing to 120 mg Q 12. (Today is day 12). Will inquire as
   to anticipated length of treatment (given question of abscess,
   Bacteremia, meningitis), anticipate several weeks ([**1-24**] or more), which
   will depend on results of CSF culture.
   - Appreciate ID and neurology input.
   - LP completed yesterday, supports picture of clearing infection
   (decreased WBC, no organisms), especially given improvement in fever
   curve and remainder of hemodynamics. Sent for fungal, AFB, modified
   cultures (to exclude Nocardia). Cryptococcal antigen negative.
   - Neuro checks q2H
   - Lactulose being given in event that hepatic encephalopathy was
   playing role
   - At present, less likely that fungal etiology is responsible for
   frontal head mass (given that all indicators of infection have
   improved, and her head masses have no worsened without treatment for
   fungal infection).
   - MR with contrast being completed this morning and MR spectroscopy to
   be completed to evaluate for other etiologies of frontal mass, as per
   discussion with neurology team after interdisciplinary conference,
   there is concern that her mass is not completely consistent with a
   listeria abscess. MR spectroscopy could help evaluate for lymphoma.
   Will ask hematology to comment on possibility of lymphoma (see below).
   .
   #) Seizure: This morning, right cheek twitching noted; patient had been
   on continuous EEG monitoring for over 24 hours, but no events had been
   noted. This would be consistent in distribution given that her mass
   (presumed abscess) is in the left frontal area. It is difficult to say
   if these activities have been seizures, and they  have stopped after
   administration of ativan.
   - Will follow up results of 24 hr EEG read, discussed further with
   neurology.
   - Increased Keppra to 1500 mg [**Hospital1 **].
   - MR to be completed today, will follow up results.
   .
   #) Pancytopenia: Today, WBC and HCT noted to be trending downward. As
   discussed with ID this morning, this is concerning given that patient
   has been off of all immunosuppressive agents for over two weeks, as
   these were felt to be the most likely etiology (other possibilities
   included stress of acute infection, viral process).
   Concern had been for hemolysis, however upon re-evaluation by
   hematology, smear was not consistent with this (FDP 10-40, haptoglobin
   was <20).  Given that immunosuppressive agents could mask a hematologic
   malignancy, which is now more evident after they have been held (LDH
   also elevated), and given concern for possible CNS lymphoma, will ask
   hematology to comment on utility of bone marrow biopsy for further
   evaluation.
   - Sending SPEP, retic count, differential (to ensure patient is no
   neutropenic)
   - Appreciate hematology assistance.
   - Continue to monitor [**Hospital1 1174**], transfuse if HCT <21-22 or symptoms.
   - TPMT returned positive, consistent with heterozyogous state, which
   suggests increased risk of myelosuppression with Imuran treatment.
   .
   #) Elevated Coagulation Studies: Stable, PTT down after holding
   subcutaneous heparin, suspect this was secondary to systemic absorption
   of subcutaneous heparin. Her elevated INR had been felt to be secondary
   to nutritional deficiencies and liver disease. Per hematology and
   laboratory values, DIC appears to be less likely, but still will
   continue to monitor for this possibility.
   - Will likely re-start SQ heparin after hematology evaluation..
   .
   #) Elevated LFTs: Trending slightly upward today, however overall
   stable, with some day-to-day variation. RUQ consistent with liver
   disease, no other concerning pathology (no ductal dilation or gall
   bladder abnormalities noted. Amylase and lipase have been trending
   downward, AST/ALT WNL currently. Records have been obtained and are
   present in back of patient
s chart from work up in [**State 951**]. Many
   attempts have been made to obtain records from [**Doctor Last Name 918**] in [**Location (un) 841**], CA,
   where patient was admitted with what sounds like near fulminant hepatic
   failure (T. Bili of 23, transaminases in thousands).
   Will continue to monitor [**Last Name (LF) 1174**], [**First Name3 (LF) **] need to involve liver team if
   laboratory values continue to worsen.
      .
   #) Acinetobacter in sputum: No consolidation, leukocytosis, or
   significant secretions to suggest true infection. Fevers have resolved.
   No PMNs upon bronchial [**Last Name (LF) 1119**], [**First Name3 (LF) **] makes culture data difficult to
   interpret, but suspect colonization.
   - Contact precautions, will follow up repeat sputum culture (which has
   acinetibacter)
   .
   #) Positive beta-glucan.  [**Month (only) 11**] be indicator of fungal infection,
   particularly given recent immunosuppression, however as noted above,
   unclear what to make of positive results given that imaging has
   remained stable and all other indicators of infection have improved.
   Appreciate ID assistance with further recommendations.
   .
   #) FEN: Will attempt to gently diurese today given extensive peripheral
   edema as tolerated by BP.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2124-9-28**] 04:55 PM 35 mL/hour
   Glycemic Control:  Insulin Sliding Scale
   Lines:
   Arterial Line - [**2124-9-15**] 01:37 PM
   20 Gauge - [**2124-9-28**] 09:33 AM
   PICC Line - [**2124-9-28**] 12:15 PM
   Prophylaxis:
   DVT: Pneumoboots, Heparin SQ once evaluated by hematology
   Stress ulcer:  PPI
   VAP:  Chlorhexidine/head of bed elevated
   Comments:
   Communication:  Comments:  Family meeting today at 4 PM.
   Code status: Full code
   Disposition: ICU for now, may call out to floor if remains stable and
   once MRI/EEG reads completed

2124-09-30 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Blood noted from tracheostomy, IP is bronched her, saw erosions,
   - CT neck to r/o tracheoinnominate fistula- negative
   - MRI: consistent with abcess, right frontal and parietal region with
   slow diffusion unchanged from before. New small areas of ehnacment seen
   in right frontal lone and right cauded.
   - EEG: Disorganized background --> mod to severe encephalopathy
   - yesterday diff: 44% neut 46%lymphocytes, 5.4% retic-- > finally
   appropriate
   - [**Known lastname **] heme recs:  Pancytopenia likely from azathioprine, but can
   also see in Hairy cell, suggest flow cytometry for hairy cell.
   - neuro recs: poor prognosis (Dr. [**Last Name (STitle) 980**] note [**Last Name (STitle) 1327**])
   - 10 mg IV lasix given for diuresis
   This morning, no response to verbal stimuli.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2124-9-30**] 02:39 AM
   Ampicillin - [**2124-9-30**] 03:39 AM
   Other medications:
   Genamicin 120 mg IV Q12H, Keppra 1500 mg [**Hospital1 **], Ativan 1 mg Q4H PRN,
   Pantoprazole 40 mg IV Q12H, Lactulose, Colace, Senna, Ampicillin 2gm IV
   Q4H, Albuterol, Tylenol, Chlorhexidine, Bisacodyl
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2124-9-30**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 88 (82 - 105) bpm
   BP: 144/73(97) {132/65(87) - 153/80(109)} mmHg
   RR: 24 (20 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.3 kg (admission): 58.8 kg
   Height: 65 Inch
             Total In:
                                                                  2,793 mL
                                                                  1,208 mL
   PO:
             TF:
                                                                    510 mL
                                                                    432 mL
   IVF:
                                                                  1,358 mL
                                                                    476 mL
   Blood products:
   Total out:
                                                                  2,610 mL
                                                                    640 mL
   Urine:
                                                                  2,610 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    183 mL
                                                                    568 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: 7.46/35/91.[**Numeric Identifier **]/23/1
   PaO2 / FiO2: 263
   Examination:
   General: Appears comfortable, on trach mask. No spontaneous movement
   noted
   HEENT: No scleral icterus or conjunctival pallor. Moist mucous
   membranes. PERRL
   Neck: Trach site appears c/d/I, no oozing or hematoma
   Lungs: CTAB no w/r/r, transmitted upper airway noises
   Cardiac: Regular, no m/g/r
   Abdomen: Mildly distended, +BS, no significant change
   Extr: Warm, diffusely edematous, grimaces with noxious stimuli to right
   hand, foot, left leg. No response to noxious stimuli of left hand
   Neuro: PERRL, possible saccadic eye movement in direction of noise.
   Otherwise no changes.
   Labs / Radiology
   71 K/uL
   7.6 g/dL
   143 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.4 mEq/L
   7 mg/dL
   115 mEq/L
   142 mEq/L
   22.2 %
   2.6 K/uL
        [image002.jpg]
                             [**2124-9-26**]  01:43 PM
                             [**2124-9-26**]  09:11 PM
                             [**2124-9-27**]  04:15 AM
                             [**2124-9-27**]  04:55 AM
                             [**2124-9-27**]  06:31 PM
                             [**2124-9-28**]  03:49 AM
                             [**2124-9-28**]  04:38 AM
                            [**2124-9-29**]  04:03 AM
                            [**2124-9-30**]  03:44 AM
                            [**2124-9-30**]  03:55 AM
   WBC
   3.0
   3.2
   2.6
   2.6
   Hct
   25.5
   23.6
   22.7
   22.2
   Plt
   90
   94
   84
   71
   Cr
   0.5
   0.6
   0.7
   0.6
   0.5
   TCO2
   21
   21
   21
   23
   26
   Glucose
   105
   122
   108
   126
   143
   Other labs: PT / PTT / INR:16.4/41.3/1.5, CK / CKMB /
   Troponin-T:36//<0.01, ALT / AST:37/52, Alk Phos / T Bili:325/1.5,
   Amylase / Lipase:66/64, Differential-Neuts:46.8 %, Lymph:44.0 %,
   Mono:7.5 %, Eos:1.3 %, D-dimer:1729 ng/mL, Fibrinogen:211 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:1.7 g/dL, LDH:408 IU/L, Ca++:6.7 mg/dL,
   Mg++:2.3 mg/dL, PO4:1.6 mg/dL
   Culture data:
   [**9-28**] CSF culture: NGTD
   [**9-28**] Central line tip: NGTD
   Otherwise no new culture data
   Flow cytometry from CSF and blood [**Month/Day (4) 1327**].
   Imaging:
   [**9-29**] CTA Neck: (Preliminary read)
   No evidence of tracheoesophageal fistula seen. No pooling of blood in
   the
   trachea or visualized bronchi seen. Moderate right and small left
   pleural
   effusions with compressive atelectasis.
   [**9-29**] MRI:
   PFI: Left frontal lesion demonstrate more increased enhancement with
   intrinsic slow diffusion, consistent with an abscess. Additional areas
   of
   slow diffusion are seen in the right frontal lobe and left parietal
   region as
   before. New small areas of enhancement are seen in the right frontal
   lobe and
   right caudate head. Bilateral frontal, parietal, subdural fluid
   collections
   are seen with mild indentation of the adjacent brain.
   Assessment and Plan
   Patient is a 60 year old female with past medical history of autoimmune
   disease, who presented with seizure, found to have Listeria bacteremia,
   meningitis, and likely Listeria brain abscess, status-post
   tracheostomy, doing well on trach mask, with hemoptysis yesterday.
   .
   #) Respiratory failure: Patient intubated for airway protection in
   setting of altered mental status, and underwent tracheostomy on
   [**2124-9-22**]. She has done well on trach mask for over 72 hours now, with
   a re-assuring ABG. No significant secretions to suggest pneumonia.
   Continuing to wean FiO2, currently at 35%.
   .
   #) Hemoptysis: Patient yesterday had significant hemoptysis and blood
   around her trach site. Bronchoscopy demonstrated an erosion that was
   felt to likely be the source of her bleeding. CTA was negative for
   fistula. No further bleeding noted. Patient has active type/cross as
   well as additional peripheral IV
s in event of additional significant
   bleeding.
   .
   #) Listeria bacteremia and meningitis/encephalitis/abscess and
   resultant mental status:
   Listeria noted in blood and CSF cultures from [**9-15**] and [**9-16**]
   respectively. Her recently immuno-suppressed state secondary to
   treatment for auto-immune hepatitis may have pre-disposed her to
   infection. Serial head CT
s have been stable. TTE and TEE completed as
   noted (abnormal, but no definite abscess or vegetation. EEG was not
   suggestive of convulsive status, however there is concern for
   intermittent seizure activity (twitching of right cheek,
   opening/closing of mouth, moving of head).
   - Ampicillin and gentimicin were started on [**9-17**]. Following levels,
   adjusted gent dosing to 120 mg Q 12. (Today is day 13). Length of
   treatment (given question of abscess, Bacteremia, meningitis),
   anticipate several weeks ([**1-24**] or more), will depend on results of CSF
   culture results, final read of MRI, ID and neurology input.
   - Appreciate ID and neurology input.
   - LP completed [**9-28**], supports picture of clearing infection (decreased
   WBC, no organisms), especially given improvement in fever curve and
   remainder of hemodynamics. Sent for fungal, AFB, modified cultures (to
   exclude Nocardia). Cryptococcal antigen negative. Monitoring culture
   data which is NGTD.
   - Neuro checks q2H
   - Lactulose being given in event that hepatic encephalopathy was
   playing role
   - At present, less likely that fungal etiology is responsible for
   frontal head mass (given that all indicators of infection have
   improved, and her head masses have no worsened without treatment for
   fungal infection).
   - MR read as noted above, will follow up final read and discuss further
   with ID and neurology teams.
   - Flow cytometry of CSF [**Month/Day (4) 1327**], MR [**First Name (Titles) 1328**] [**Last Name (Titles) 1327**].
   .
   #) Seizure: Again short episode of right cheek twitching noted this
   morning, which could be monoclonous. Continuous EEG monitoring for over
   24 hours did not reveal any seizure activity. This would be consistent
   in distribution given that her mass (presumed abscess) is in the left
   frontal area. It is difficult to say if these activities have been
   seizures, and they  have stopped after administration of ativan.
   - EEG as noted above
   - Increased Keppra to 1500 mg [**Hospital1 **], changed over to PO.
   - Will follow up final MRI results.
   .
   #) Pancytopenia: All cell counts stable today. Given that patient has
   been off of all immunosuppressive agents for over two weeks, as these
   were felt to be the most likely etiology (other possibilities included
   stress of acute infection, viral process).
   Concern had been for hemolysis, however upon re-evaluation by
   hematology, smear was not consistent with this (FDP 10-40, haptoglobin
   was <20).  Given that immunosuppressive agents could mask a hematologic
   malignancy, which is now more evident after they have been held (LDH
   also elevated), and given concern for possible CNS lymphoma, hematology
   was re-consulted to comment on utility of bone marrow biopsy for
   further evaluation.
   - Sending SPEP, retic count demonstrated marrow is responding
   - Appreciate hematology assistance, flow cytometry send, will continue
   to consider bone marrow biopsy.
   - Continue to monitor [**Hospital1 1174**], transfuse if HCT <21-22 or symptoms.
   - TPMT returned positive, consistent with heterozyogous state, which
   suggests increased risk of myelosuppression with Imuran treatment.
   .
   #) Elevated Coagulation Studies: Stable. Her elevated INR had been felt
   to be secondary to nutritional deficiencies and liver disease. Per
   hematology and laboratory values, DIC appears to be less likely, but
   still will continue to monitor for this possibility.
   - Appreciate hematology assistance. Pneumoboots for now for DVT
   prophylaxis, then likely [**Hospital1 **] heparin.
   .
   #) Elevated LFTs: Overall stable. RUQ consistent with liver disease, no
   other concerning pathology (no ductal dilation or gall bladder
   abnormalities noted. Amylase and lipase have been trending downward,
   AST/ALT WNL currently. Records have been obtained and are present in
   back of patient
s chart from work up in [**State 951**]. Many attempts have been
   made to obtain records from [**Doctor Last Name 918**] in [**Location (un) 841**], CA, where patient was
   admitted with what sounds like near fulminant hepatic failure (T. Bili
   of 23, transaminases in thousands).
   - Will continue to monitor [**Last Name (LF) 1174**], [**First Name3 (LF) **] need to involve liver team if
   laboratory values continue to worsen.
      .
   #) Acinetobacter in sputum: No consolidation, leukocytosis, or
   significant secretions to suggest true infection. Fevers have resolved.
   No PMNs upon bronchial [**Last Name (LF) 1119**], [**First Name3 (LF) **] makes culture data difficult to
   interpret, but suspect colonization.
   - Contact precautions.
   .
   #) Positive beta-glucan.  [**Month (only) 11**] be indicator of fungal infection,
   particularly given recent immunosuppression, however as noted above,
   unclear what to make of positive results given that imaging has
   remained stable and all other indicators of infection have improved.
   Appreciate ID assistance with further recommendations.
   .
   #) FEN: Again, will attempt to gently diurese today given extensive
   peripheral edema as tolerated by BP.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2124-9-30**] 01:31 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2124-9-15**] 01:37 PM
   20 Gauge - [**2124-9-28**] 09:33 AM
   PICC Line - [**2124-9-28**] 12:15 PM
   Prophylaxis:
   DVT: Pneumoboots/Heparin SQ
   Stress ulcer: PPI
   VAP:  Chlorhexidine, Head of bed elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for monitoring at least overnight, given recent
   hemoptysis, question of seizures

2124-09-30 11:46:00 Physician Attending Progress Note
Chief Complaint: 60 year woman with fulminant hepatitis, started on
   immuran, prednisone; seized at home found to have a CNS mass; LP grew
   out listeria, now with persistent diminished MS. Withdraws to noxious
   stimuli but no other signif neuro function.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   s/p Trach
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2124-9-29**] 08:00 AM
 BRONCHOSCOPY - At [**2124-9-29**] 04:00 PM
   Hemoptysis yesterday PM - bronch showed erosions. Had neck CTA negative
   for fistula. No further hemoptysis.
   EEG - mod-severe encephalopathy
   Myelosupression from Immuran
   Neuro met with family and family informed about poor prognosis
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2124-9-30**] 02:39 AM
   Ampicillin - [**2124-9-30**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-30**] 08:00 AM
   Furosemide (Lasix) - [**2124-9-30**] 08:09 AM
   Other medications:
   colace, protonix, RISS, keppra, lactulose, ativan, KCL, neutrophos,
   lasix
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-30**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.2
C (97.2
   HR: 92 (83 - 105) bpm
   BP: 152/90(111) {132/66(87) - 156/92(112)} mmHg
   RR: 29 (20 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.3 kg (admission): 58.8 kg
   Height: 65 Inch
             Total In:
                                                                  2,793 mL
                                                                  1,895 mL
   PO:
             TF:
                                                                    510 mL
                                                                    644 mL
   IVF:
                                                                  1,358 mL
                                                                    711 mL
   Blood products:
   Total out:
                                                                  2,610 mL
                                                                  1,915 mL
   Urine:
                                                                  2,610 mL
                                                                  1,915 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    183 mL
                                                                    -20 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: 7.46/35/91.[**Numeric Identifier **]/23/1
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Decreased
   Labs / Radiology
   7.6 g/dL
   71 K/uL
   143 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.4 mEq/L
   7 mg/dL
   115 mEq/L
   142 mEq/L
   22.2 %
   2.6 K/uL
        [image002.jpg]
                             [**2124-9-26**]  01:43 PM
                             [**2124-9-26**]  09:11 PM
                             [**2124-9-27**]  04:15 AM
                             [**2124-9-27**]  04:55 AM
                             [**2124-9-27**]  06:31 PM
                             [**2124-9-28**]  03:49 AM
                             [**2124-9-28**]  04:38 AM
                            [**2124-9-29**]  04:03 AM
                            [**2124-9-30**]  03:44 AM
                            [**2124-9-30**]  03:55 AM
   WBC
   3.0
   3.2
   2.6
   2.6
   Hct
   25.5
   23.6
   22.7
   22.2
   Plt
   90
   94
   84
   71
   Cr
   0.5
   0.6
   0.7
   0.6
   0.5
   TCO2
   21
   21
   21
   23
   26
   Glucose
   105
   122
   108
   126
   143
   Other labs: PT / PTT / INR:16.4/41.3/1.5, CK / CKMB /
   Troponin-T:36//<0.01, ALT / AST:37/52, Alk Phos / T Bili:325/1.5,
   Amylase / Lipase:66/64, Differential-Neuts:46.8 %, Lymph:44.0 %,
   Mono:7.5 %, Eos:1.3 %, D-dimer:1729 ng/mL, Fibrinogen:211 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:1.7 g/dL, LDH:408 IU/L, Ca++:6.7 mg/dL,
   Mg++:2.3 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   Patient is a 60 year old female with past medical history of autoimmune
   disease, who presented with seizure, found to have Listeria bacteremia,
   meningitis, and likely Listeria brain abscess, status-post
   tracheostomy, doing well on trach mask, with some withdrawal to noxious
   stimuli today.
 SUBARACHNOID HEMORRHAGE (SAH)
 MENINGITIS, BACTERIAL
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ANEMIA, HEMOLYTIC
   #) Respiratory failure: Patient intubated for airway protection in
   setting of altered mental status, and underwent tracheostomy on
   [**2124-9-22**]. She has done well on trach mask for over 48 hours now, with
   a re-assuring ABG. No significant secretions to suggest pneumonia.
   Continuing to wean FiO2, currently at 40%.
   #) Listeria bacteremia and meningitis/encephalitis/abscess and
   resultant mental status:
   Listeria noted in blood and CSF cultures from [**9-15**] and [**9-16**]
   respectively. Her recently immuno-suppressed state secondary to
   treatment for auto-immune hepatitis may have pre-disposed her to
   infection. Serial head CT
s have been stable. TTE and TEE completed as
   noted (abnormal, but no definite abscess or vegetation. EEG was not
   suggestive of convulsive status, however there is concern for
   intermittent seizure activity (twitching of right cheek,
   opening/closing of mouth, moving of head).
   - Ampicillin and gentimicin were started on [**9-17**]. Following levels,
   adjusted gent dosing to 120 mg Q 12. (Today is day 12). Will inquire as
   to anticipated length of treatment (given question of abscess,
   Bacteremia, meningitis), anticipate several weeks ([**1-24**] or more), which
   will depend on results of CSF culture.
   - Appreciate ID and neurology input.
   - LP completed yesterday, supports picture of clearing infection
   (decreased WBC, no organisms), especially given improvement in fever
   curve and remainder of hemodynamics. Sent for fungal, AFB, modified
   cultures (to exclude Nocardia). Cryptococcal antigen negative.
   - Neuro checks q2H
   - Lactulose being given in event that hepatic encephalopathy was
   playing role
   - At present, less likely that fungal etiology is responsible for
   frontal head mass (given that all indicators of infection have
   improved, and her head masses have no worsened without treatment for
   fungal infection).
   - MR with contrast being completed this morning and MR spectroscopy to
   be completed to evaluate for other etiologies of frontal mass, as per
   discussion with neurology team after interdisciplinary conference,
   there is concern that her mass is not completely consistent with a
   listeria abscess. MR spectroscopy could help evaluate for lymphoma.
   Will ask hematology to comment on possibility of lymphoma (see below).
   .
   #) Seizure: This morning, right cheek twitching noted; patient had been
   on continuous EEG monitoring for over 24 hours, but no events had been
   noted. This would be consistent in distribution given that her mass
   (presumed abscess) is in the left frontal area. It is difficult to say
   if these activities have been seizures, and they  have stopped after
   administration of ativan.
   - Will follow up results of 24 hr EEG read, discussed further with
   neurology.
   - Increased Keppra to 1500 mg [**Hospital1 **].
   - MR to be completed today, will follow up results.
   .
   #) Pancytopenia: Today, WBC and HCT noted to be trending downward. As
   discussed with ID this morning, this is concerning given that patient
   has been off of all immunosuppressive agents for over two weeks, as
   these were felt to be the most likely etiology (other possibilities
   included stress of acute infection, viral process).
   Concern had been for hemolysis, however upon re-evaluation by
   hematology, smear was not consistent with this (FDP 10-40, haptoglobin
   was <20).  Given that immunosuppressive agents could mask a hematologic
   malignancy, which is now more evident after they have been held (LDH
   also elevated), and given concern for possible CNS lymphoma, will ask
   hematology to comment on utility of bone marrow biopsy for further
   evaluation.
   - Sending SPEP, retic count, differential (to ensure patient is no
   neutropenic)
   - Appreciate hematology assistance.
   - Continue to monitor [**Hospital1 1174**], transfuse if HCT <21-22 or symptoms.
   - TPMT returned positive, consistent with heterozyogous state, which
   suggests increased risk of myelosuppression with Imuran treatment.
   .
   #) Elevated Coagulation Studies: Stable, PTT down after holding
   subcutaneous heparin, suspect this was secondary to systemic absorption
   of subcutaneous heparin. Her elevated INR had been felt to be secondary
   to nutritional deficiencies and liver disease. Per hematology and
   laboratory values, DIC appears to be less likely, but still will
   continue to monitor for this possibility.
   - Will likely re-start SQ heparin after hematology evaluation..
   .
   #) Elevated LFTs: Trending slightly upward today, however overall
   stable, with some day-to-day variation. RUQ consistent with liver
   disease, no other concerning pathology (no ductal dilation or gall
   bladder abnormalities noted. Amylase and lipase have been trending
   downward, AST/ALT WNL currently. Records have been obtained and are
   present in back of patient
s chart from work up in [**State 951**]. Many
   attempts have been made to obtain records from [**Doctor Last Name 918**] in [**Location (un) 841**], CA,
   where patient was admitted with what sounds like near fulminant hepatic
   failure (T. Bili of 23, transaminases in thousands).
   Will continue to monitor [**Last Name (LF) 1174**], [**First Name3 (LF) **] need to involve liver team if
   laboratory values continue to worsen.
      .
   #) Acinetobacter in sputum: No consolidation, leukocytosis, or
   significant secretions to suggest true infection. Fevers have resolved.
   No PMNs upon bronchial [**Last Name (LF) 1119**], [**First Name3 (LF) **] makes culture data difficult to
   interpret, but suspect colonization.
   - Contact precautions, will follow up repeat sputum culture (which has
   acinetibacter)
   .
   #) Positive beta-glucan.  [**Month (only) 11**] be indicator of fungal infection,
   particularly given recent immunosuppression, however as noted above,
   unclear what to make of positive results given that imaging has
   remained stable and all other indicators of infection have improved.
   Appreciate ID assistance with further recommendations.
   .
   #) FEN: Will attempt to gently diurese today given extensive peripheral
   edema as tolerated by BP
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2124-9-30**] 01:31 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2124-9-15**] 01:37 PM
   20 Gauge - [**2124-9-28**] 09:33 AM
   PICC Line - [**2124-9-28**] 12:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2124-10-01 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - A-line discontinued
   - Repeat MRI final read demonstrating new lesions
   - After extensive discussion with ID: Concern for fungal infection that
   has evolved, or endocarditis with septic emboli.
   - Started ambisome for empiric anti-fungal treatment given MRI results.
   - Re-consulted neurosurgery to discuss role of brain biopsy to further
   evaluate
   - Cardiology consulted to plan for repeat TEE to assess for vegetation
   or abscess ([**First Name8 (NamePattern2) 1359**] [**Last Name (NamePattern1) 1360**]), will likely repeat TEE Tuesday morning
   - Dr. [**Last Name (STitle) 1361**] (ID) spoke with both Dr. [**Last Name (STitle) 980**] (neurology attending who
   followed during week), and weekend neurologist Dr. [**Last Name (STitle) 1362**]. Given need to
   determine prognosis to help guide additional management, neurology will
   see patient this morning and re-assess situation.
   - While investigating foley leak, patient noted to have eyes open, be
   looking around. Engaged in eye contact, shook head "no" when asked if
   in pain or having trouble breathing, "yes" when asked if cold. Opened
   mouth, stuck out tongue, moved left arm on command. Sister called and
   returned to bedside.
   - KUB for question of possible worsening distension demonstrated likely
   ilieus.
   - 10 mg IV lasix for diuresis
   - Heme reviewed smear: no schistocytes, will re-address BM Bx with
   attending (ID recommended BM Bx as well)
   This morning, patient opens eyes, shakes head
 when asked if short
   of breath, in pain, or if she has abdominal pain. Shakes head
   when asked if she is comfortable. Overnight was at times slightly less
   responsive, but would consistently open eyes when asked.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ambisome - [**2124-9-30**] 10:55 PM
   Gentamicin - [**2124-10-1**] 01:27 AM
   Ampicillin - [**2124-10-1**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-30**] 09:35 PM
   Furosemide (Lasix) - [**2124-10-1**] 01:29 AM
   Other medications:
   Ambisome 350 mg daily, Keppra 1500 mg [**Hospital1 **], Gentamicin 120 mg IV Q12H,
   Ativan 1 mg PRN seizure, Fentanyl PRN pain, Lansoprazole, Insulin
   sliding scale, Lactulose, Colace, Senna, Ampicillin 2 gm IV Q4H,
   Albuterol, Tylenol, Chlorhexidine, Bisacodyl
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2124-10-1**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.1
C (98.7
   HR: 90 (89 - 99) bpm
   BP: 118/73(83) {102/53(68) - 123/99(103)} mmHg
   RR: 23 (18 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.3 kg (admission): 58.8 kg
   Height: 65 Inch
             Total In:
                                                                  4,028 mL
                                                                  1,178 mL
   PO:
             TF:
                                                                  1,415 mL
                                                                    450 mL
   IVF:
                                                                  1,493 mL
                                                                    368 mL
   Blood products:
   Total out:
                                                                  3,205 mL
                                                                  1,510 mL
   Urine:
                                                                  3,205 mL
                                                                  1,510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    823 mL
                                                                   -332 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General: Appears comfortable, opens eyes and tracks people in room
   HEENT: PERRL, tracks people in the room and makes good eye contact.
   Bilateral mild ptosis present.
   Neck: Tracheostomy site c/d/i. Supple, patient able to lift head off
   bed at times.1
   Lungs: CTAB without wheezes or rales
   Cardiac: Regular, no m/g/r
   Abd: Slightly distended non-tender, +BS, soft
   Extr: Warm, pitting edema to calves over legs, pneumoboots in place. No
   new finger or nail lesion.
   Neuro: Awake, attentive to questions at times
will shake head
 at times. Opened mouth and stuck out tongue on command, attempted
   to squeeze right hand. Per nrsg, wiggled toes bilaterally earlier in
   AM.
   Skin: No new lesions.
   Labs / Radiology
   66 K/uL
   8.4 g/dL
   120 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.4 mEq/L
   7 mg/dL
   112 mEq/L
   141 mEq/L
   24.5 %
   3.1 K/uL
        [image002.jpg]
                             [**2124-9-27**]  04:15 AM
                             [**2124-9-27**]  04:55 AM
                             [**2124-9-27**]  06:31 PM
                             [**2124-9-28**]  03:49 AM
                             [**2124-9-28**]  04:38 AM
                            [**2124-9-29**]  04:03 AM
                            [**2124-9-30**]  03:44 AM
                            [**2124-9-30**]  03:55 AM
                            [**2124-9-30**]  03:25 PM
                            [**2124-10-1**]  04:32 AM
   WBC
   3.0
   3.2
   2.6
   2.6
   3.1
   Hct
   25.5
   23.6
   22.7
   22.2
   24.5
   Plt
   90
   94
   84
   71
   66
   Cr
   0.6
   0.7
   0.6
   0.5
   0.4
   0.5
   TCO2
   21
   21
   23
   26
   Glucose
   122
   108
   126
   143
   123
   120
   Other labs: PT / PTT / INR:15.6/35.0/1.4, CK / CKMB /
   Troponin-T:36//<0.01, ALT / AST:40/54, Alk Phos / T Bili:386/1.4,
   Amylase / Lipase:66/64, Differential-Neuts:46.8 %, Lymph:44.0 %,
   Mono:7.5 %, Eos:1.3 %, D-dimer:1729 ng/mL, Fibrinogen:211 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:1.8 g/dL, LDH:396 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Culture Data:
   [**9-28**] CSF: No growth to date.
   [**9-28**] Central line tip culture: No growth to date.
   [**9-30**] and [**10-1**] Blood culture x2 NGTD (including myco/fungal cx)
   Imaging:
   [**9-30**] KUB:
   Left lateral decubitus view is nondiagnostic for free intraperitoneal
   air due
   to motion artifact, but no gross free air is evident on this limited
   study.
   Mildly distended loops of small and large bowel are identified within
   the
   abdomen, likely ileus. A percutaneous gastrostomy tube is present.
   Nasogastric tube has been removed.
   [**10-1**] CXR: Read [**Month/Year (2) 1327**]
   Assessment and Plan
   Patient is a 60 year old female with past medical history of autoimmune
   disease, who presented with seizure, found to have Listeria bacteremia,
   meningitis, and likely Listeria brain abscess, status-post
   tracheostomy, doing well on trach mask, with marked improvement in
   mental status overnight.
   .
   #) Respiratory failure: Patient intubated for airway protection in
   setting of altered mental status, and underwent tracheostomy on
   [**2124-9-22**]. She has done well on trach mask for over several days now,
   with a re-assuring ABGs. No significant secretions to suggest
   pneumonia. Continuing to wean FiO2, currently at 35%. She had had
   episode of hemoptysis, however bronchoscopy and CTA re-assuring;
   bleeding was likely due to small site of erosion.
   .
   #) Listeria bacteremia and meningitis/encephalitis/abscess and
   resultant mental status:
   Overnight with marked improvement in mental status
able to follow some
   commands, attempted to speak. Based on MRI yesterday, there is concern
   that patient may have another process such as neoplasm or fungal
   infection, or endocarditis that continues to seed her CSF.
   Listeria noted in blood and CSF cultures from [**9-15**] and [**9-16**]
   respectively. Her recently immuno-suppressed state secondary to
   treatment for auto-immune hepatitis may have pre-disposed her to
   infection. Serial head CT
s have been stable. TTE and TEE completed as
   noted (abnormal, but no definite abscess or vegetation. EEG was not
   suggestive of convulsive status, however there is concern for
   intermittent seizure activity (twitching of right cheek,
   opening/closing of mouth, moving of head).
   - Ampicillin and gentimicin were started on [**9-17**]. Following levels,
   adjusted gent dosing to 120 mg Q 12. (Today is day 14). Length of
   treatment (given question of abscess, Bacteremia, meningitis),
   anticipate several weeks ([**1-24**] or more), will depend on results of CSF
   culture results, final read of MRI, ID and neurology input.
   - Appreciate ID and neurology input.
   - LP completed [**9-28**], supports picture of clearing infection (decreased
   WBC, no organisms), especially given improvement in fever curve and
   remainder of hemodynamics. Sent for fungal, AFB, modified cultures (to
   exclude Nocardia). Cryptococcal antigen negative. Monitoring culture
   data which is NGTD.
   - Flow cytometry of CSF [**Month/Day (4) 1327**], MR [**First Name (Titles) 1328**] [**Last Name (Titles) 1327**].
   - Given question of fungal infection in setting of new lesions and
   elevated beta-glucan, initiated empiric anti-fungal coverage, sent off
   fungal cultures. Neurosurgery re-consulted to discuss sampling of brain
   lesions. Cardiology also involved as first TEE was not entirely normal,
   to re-evaluate if patient has vegetation or abscess that could account
   for findings (as in this event, would less likely need brain biopsy).
   Neurology to see patient over the weekend and assist with further
   prognosis, work-up, etc. Input greatly appreciated.
   - Aprpeciate hematology assistance with possible marrow biopsy to
   further evaluate for possible fungal infection in setting of (+)
   B-glucan.
   - Keppra 1500 mg [**Hospital1 **] for seizure prophylaxis, no seizure activity noted
   on EEG.
   - PT/OT consults over next 1-2 days.
   - Speech consult for PMV.
   .
   #) Pancytopenia: WBC and HCT improved today, however platelets slightly
   down. Patient has been off of all immunosuppressive agents for over two
   weeks, as these were felt to be the most likely etiology (other
   possibilities included stress of acute infection, viral process). Labs
   and smear have not been consistent with hemolysis.
   Given that immunosuppressive agents could mask a hematologic
   malignancy, which is now more evident after they have been held (LDH
   also elevated), and given concern for possible CNS lymphoma, hematology
   was re-consulted to comment on utility of bone marrow biopsy for
   further evaluation, also in setting of question of fungal infection.
   - SPEP [**Hospital1 1327**], retic count demonstrated marrow is responding
   - Appreciate hematology assistance, flow cytometry sent, will continue
   to consider bone marrow biopsy.
   - Continue to monitor [**Hospital1 1174**], transfuse if HCT <21-22 or symptoms.
   - TPMT returned positive, consistent with heterozyogous state, which
   suggests increased risk of myelosuppression with Imuran treatment.
   .
   #) Elevated Coagulation Studies: Stable. Her elevated INR had been felt
   to be secondary to nutritional deficiencies and liver disease. Per
   hematology and laboratory values, DIC appears to be less likely, but
   still will continue to monitor for this possibility.
   - Appreciate hematology assistance. Pneumoboots for now for DVT
   prophylaxis, then likely [**Hospital1 **] heparin.
   .
   #) Elevated LFTs: Overall stable, some slightly up today. RUQ
   consistent with liver disease, no other concerning pathology (no ductal
   dilation or gall bladder abnormalities noted. Amylase and lipase have
   been trending downward, AST/ALT WNL currently. Records have been
   obtained and are present in back of patient
s chart from work up in
   [**State 951**]. Many attempts have been made to obtain records from [**Doctor Last Name 918**] in
   [**Location (un) 841**], CA, where patient was admitted with what sounds like near
   fulminant hepatic failure (T. Bili of 23, transaminases in thousands).
   - Will continue to monitor [**Last Name (LF) 1174**], [**First Name3 (LF) **] need to involve liver team if
   laboratory values continue to worsen.
      .
   #) Acinetobacter in sputum: No consolidation, leukocytosis, or
   significant secretions to suggest true infection. Fevers have resolved.
   No PMNs upon bronchial [**Last Name (LF) 1119**], [**First Name3 (LF) **] makes culture data difficult to
   interpret, but suspect colonization.
   - Contact precautions.
   .
   #) FEN: Again, will attempt to gently diurese today given extensive
   peripheral edema as tolerated by BP.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2124-9-30**] 09:48 PM 60 mL/hour
   Glycemic Control:  Insulin sliding scale as needed
   Lines:
   20 Gauge - [**2124-9-28**] 09:33 AM
   PICC Line - [**2124-9-28**] 12:15 PM
   Prophylaxis:
   DVT: Hep SQ TID
   Stress ulcer: PPI
   VAP:  Chlorhexidine, head of bed elevation
   Comments: Will attempt to get OOB to chair today.
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2124-10-01 10:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2124-9-30**] 12:02 PM
 BLOOD CULTURED - At [**2124-9-30**] 09:47 PM
   Awoke and became responsive to verbal requests
   MRI - 2 new lesions - concern about possible neoplasm - asked neurosurg
   to consider brain bx
   Started Ambisome for ? fungal CNS infection in light of +beta-glucan
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ambisome - [**2124-9-30**] 10:55 PM
   Gentamicin - [**2124-10-1**] 01:27 AM
   Ampicillin - [**2124-10-1**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2124-10-1**] 01:29 AM
   Pantoprazole (Protonix) - [**2124-10-1**] 08:00 AM
   Other medications:
   dulcolax, colace, lactulose, keppra, lanzoprazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-10-1**] 10:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 98 (90 - 99) bpm
   BP: 109/63(73) {102/53(67) - 123/99(103)} mmHg
   RR: 21 (18 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.3 kg (admission): 58.8 kg
   Height: 65 Inch
             Total In:
                                                                  4,028 mL
                                                                  1,717 mL
   PO:
             TF:
                                                                  1,415 mL
                                                                    586 mL
   IVF:
                                                                  1,493 mL
                                                                    501 mL
   Blood products:
   Total out:
                                                                  3,205 mL
                                                                  1,645 mL
   Urine:
                                                                  3,205 mL
                                                                  1,645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    823 mL
                                                                     72 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+, UE Edema Bilaterally
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, Tone: Normal
   Labs / Radiology
   8.4 g/dL
   66 K/uL
   120 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.4 mEq/L
   7 mg/dL
   112 mEq/L
   141 mEq/L
   24.5 %
   3.1 K/uL
        [image002.jpg]
                             [**2124-9-27**]  04:15 AM
                             [**2124-9-27**]  04:55 AM
                             [**2124-9-27**]  06:31 PM
                             [**2124-9-28**]  03:49 AM
                             [**2124-9-28**]  04:38 AM
                            [**2124-9-29**]  04:03 AM
                            [**2124-9-30**]  03:44 AM
                            [**2124-9-30**]  03:55 AM
                            [**2124-9-30**]  03:25 PM
                            [**2124-10-1**]  04:32 AM
   WBC
   3.0
   3.2
   2.6
   2.6
   3.1
   Hct
   25.5
   23.6
   22.7
   22.2
   24.5
   Plt
   90
   94
   84
   71
   66
   Cr
   0.6
   0.7
   0.6
   0.5
   0.4
   0.5
   TCO2
   21
   21
   23
   26
   Glucose
   122
   108
   126
   143
   123
   120
   Other labs: PT / PTT / INR:15.6/35.0/1.4, CK / CKMB /
   Troponin-T:36//<0.01, ALT / AST:40/54, Alk Phos / T Bili:386/1.4,
   Amylase / Lipase:66/64, Differential-Neuts:46.8 %, Lymph:44.0 %,
   Mono:7.5 %, Eos:1.3 %, D-dimer:1729 ng/mL, Fibrinogen:211 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:1.8 g/dL, LDH:396 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 SUBARACHNOID HEMORRHAGE (SAH)
 MENINGITIS, BACTERIAL
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ANEMIA, HEMOLYTIC
   Patient is a 60 year old female with past medical history of autoimmune
   disease, who presented with seizure, found to have Listeria bacteremia,
   meningitis, and likely Listeria brain abscess, status-post
   tracheostomy, doing well on trach mask, with hemoptysis yesterday.
   .
   #) Respiratory failure: Patient intubated for airway protection in
   setting of altered mental status, and underwent tracheostomy on
   [**2124-9-22**]. She has done well on trach mask for over 72 hours now, with
   a re-assuring ABG. No significant secretions to suggest pneumonia.
   Continuing to wean FiO2, currently at 35%.
   .
   #) Hemoptysis: Patient yesterday had significant hemoptysis and blood
   around her trach site. Bronchoscopy demonstrated an erosion that was
   felt to likely be the source of her bleeding. CTA was negative for
   fistula. No further bleeding noted. Patient has active type/cross as
   well as additional peripheral IV
s in event of additional significant
   bleeding.
   .
   #) Listeria bacteremia and meningitis/encephalitis/abscess and
   resultant mental status: Woke up last night and began to follow simple
   commands
   Listeria noted in blood and CSF cultures from [**9-15**] and [**9-16**]
   respectively. Her recently immuno-suppressed state secondary to
   treatment for auto-immune hepatitis may have pre-disposed her to
   infection. Serial head CT
s have been stable. TTE and TEE completed as
   noted (abnormal, but no definite abscess or vegetation. EEG was not
   suggestive of convulsive status, however there is concern for
   intermittent seizure activity (twitching of right cheek,
   opening/closing of mouth, moving of head).
   - Ampicillin and gentimicin were started on [**9-17**]. Following levels,
   adjusted gent dosing to 120 mg Q 12. (Today is day 13). Length of
   treatment (given question of abscess, Bacteremia, meningitis),
   anticipate several weeks ([**1-24**] or more), will depend on results of CSF
   culture results, final read of MRI, ID and neurology input.
   - Appreciate ID and neurology input.
   - LP completed [**9-28**], supports picture of clearing infection (decreased
   WBC, no organisms), especially given improvement in fever curve and
   remainder of hemodynamics. Sent for fungal, AFB, modified cultures (to
   exclude Nocardia). Cryptococcal antigen negative. Monitoring culture
   data which is NGTD.
   - Neuro checks q2H
   - Lactulose being given in event that hepatic encephalopathy was
   playing role
   - At present, less likely that fungal etiology is responsible for
   frontal head mass (given that all indicators of infection have
   improved, and her head masses have no worsened without treatment for
   fungal infection).
   - MR read as noted above, will follow up final read and discuss further
   with ID and neurology teams.
   - Flow cytometry of CSF [**Month/Day (4) 1327**], MR [**First Name (Titles) 1328**] [**Last Name (Titles) 1327**].
   .
   #) Seizure: Again short episode of right cheek twitching noted this
   morning, which could be monoclonous. Continuous EEG monitoring for over
   24 hours did not reveal any seizure activity. This would be consistent
   in distribution given that her mass (presumed abscess) is in the left
   frontal area. It is difficult to say if these activities have been
   seizures, and they  have stopped after administration of ativan.
   - EEG as noted above
   - Increased Keppra to 1500 mg [**Hospital1 **], changed over to PO.
   - Will follow up final MRI results.
   .
   #) Pancytopenia: All cell counts stable today. WBC increasing. Given
   that patient has been off of all immunosuppressive agents for over two
   weeks, as these were felt to be the most likely etiology (other
   possibilities included stress of acute infection, viral process).
   Concern had been for hemolysis, however upon re-evaluation by
   hematology, smear was not consistent with this (FDP 10-40, haptoglobin
   was <20).  Given that immunosuppressive agents could mask a hematologic
   malignancy, which is now more evident after they have been held (LDH
   also elevated), and given concern for possible CNS lymphoma, hematology
   was re-consulted to comment on utility of bone marrow biopsy for
   further evaluation.
   - Sending SPEP, retic count demonstrated marrow is responding
   - Appreciate hematology assistance, flow cytometry send, will continue
   to consider bone marrow biopsy.
   - Continue to monitor [**Hospital1 1174**], transfuse if HCT <21-22 or symptoms.
   - TPMT returned positive, consistent with heterozyogous state, which
   suggests increased risk of myelosuppression with Imuran treatment.
   .
   #) Elevated Coagulation Studies: Stable. Her elevated INR had been felt
   to be secondary to nutritional deficiencies and liver disease. Per
   hematology and laboratory values, DIC appears to be less likely, but
   still will continue to monitor for this possibility.
   - Appreciate hematology assistance. Pneumoboots for now for DVT
   prophylaxis, then likely [**Hospital1 **] heparin.
   .
   #) Elevated LFTs: Overall stable. RUQ consistent with liver disease, no
   other concerning pathology (no ductal dilation or gall bladder
   abnormalities noted. Amylase and lipase have been trending downward,
   AST/ALT WNL currently. Records have been obtained and are present in
   back of patient
s chart from work up in [**State 951**]. Many attempts have been
   made to obtain records from [**Doctor Last Name 918**] in [**Location (un) 841**], CA, where patient was
   admitted with what sounds like near fulminant hepatic failure (T. Bili
   of 23, transaminases in thousands).
   - Will continue to monitor [**Last Name (LF) 1174**], [**First Name3 (LF) **] need to involve liver team if
   laboratory values continue to worsen.
      .
   #) Acinetobacter in sputum: No consolidation, leukocytosis, or
   significant secretions to suggest true infection. Fevers have resolved.
   No PMNs upon bronchial [**Last Name (LF) 1119**], [**First Name3 (LF) **] makes culture data difficult to
   interpret, but suspect colonization.
   - Contact precautions.
   .
   #) Positive beta-glucan.  [**Month (only) 11**] be indicator of fungal infection,
   particularly given recent immunosuppression, however as noted above,
   unclear what to make of positive results given that imaging has
   remained stable and all other indicators of infection have improved.
   Have started antifungal coverage in light of new lesions on MR and +
   beta-glucan
   .
   #) FEN: Again, will attempt to gently diurese today given extensive
   peripheral edema as tolerated by BP.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2124-10-1**] 07:48 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2124-9-28**] 09:33 AM
   PICC Line - [**2124-9-28**] 12:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2124-10-02 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Neuro c/s ([**Doctor Last Name 1362**]): Thinks MRI from [**9-29**] shows finidngs that may not
   be new, just evolution of previous areas that had abnormal diffusion
   previously, but agrees with evaluation for endocarditis; OK to hold off
   on bx; seems to be improving neurologically
   - NSurg: No indication for bx, signing off
   - TTE scheduled for Tues AM (Cards aware)
   - ID: follow Gent levels
   - Repleted K & Mag & Phos
   - PICC nurse following R arm PICC, slow to draw, requested U/S
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ambisome - [**2124-10-1**] 11:00 PM
   Ampicillin - [**2124-10-2**] 02:17 AM
   Gentamicin - [**2124-10-2**] 05:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-10-1**] 08:00 AM
   Furosemide (Lasix) - [**2124-10-1**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-10-2**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.6
C (97.8
   HR: 99 (96 - 113) bpm
   BP: 116/69(80) {100/42(59) - 125/77(87)} mmHg
   RR: 19 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.3 kg (admission): 58.8 kg
   Height: 65 Inch
             Total In:
                                                                  3,409 mL
                                                                  1,029 mL
   PO:
             TF:
                                                                  1,444 mL
                                                                    425 mL
   IVF:
                                                                  1,335 mL
                                                                    324 mL
   Blood products:
   Total out:
                                                                  3,350 mL
                                                                    375 mL
   Urine:
                                                                  3,350 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     59 mL
                                                                    654 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, T-piece
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Gen: Awake, follows commands:
   HEENT: PERRL
   Neck: trach in place
   Lungs: Coarse BS bilaterally
   Heart: s1s2 RRR
   Abd: soft, distended, non-tender
   Ext: + peripheral edema
   Labs / Radiology
   69 K/uL
   7.5 g/dL
   115 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.6 mEq/L
   11 mg/dL
   111 mEq/L
   138 mEq/L
   21.8 %
   4.1 K/uL
        [image002.jpg]
                             [**2124-9-27**]  04:55 AM
                             [**2124-9-27**]  06:31 PM
                             [**2124-9-28**]  03:49 AM
                             [**2124-9-28**]  04:38 AM
                            [**2124-9-29**]  04:03 AM
                            [**2124-9-30**]  03:44 AM
                            [**2124-9-30**]  03:55 AM
                            [**2124-9-30**]  03:25 PM
                            [**2124-10-1**]  04:32 AM
                            [**2124-10-2**]  05:10 AM
   WBC
   3.2
   2.6
   2.6
   3.1
   4.1
   Hct
   23.6
   22.7
   22.2
   24.5
   21.8
   Plt
   94
   84
   71
   66
   69
   Cr
   0.7
   0.6
   0.5
   0.4
   0.5
   0.4
   TCO2
   21
   21
   23
   26
   Glucose
   108
   126
   143
   123
   120
   115
   Other labs: PT / PTT / INR:15.2/34.1/1.3, CK / CKMB /
   Troponin-T:36//<0.01, ALT / AST:37/54, Alk Phos / T Bili:424/1.2,
   Amylase / Lipase:66/64, Differential-Neuts:57.0 %, Band:6.0 %,
   Lymph:27.0 %, Mono:10.0 %, Eos:0.0 %, D-dimer:1729 ng/mL,
   Fibrinogen:211 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:1.6 g/dL, LDH:375
   IU/L, Ca++:6.4 mg/dL, Mg++:2.2 mg/dL, PO4:1.9 mg/dL
   MICRO:
   - [**10-1**] Bld cx: P
   - [**10-1**] Mycolytic cx: P
   - [**9-30**] Bld cx: P
   - [**9-30**] Mycolytic cx: P
   - [**9-28**] catheter tip: NGTD
   IMAGING:
   - [**10-2**] KUB: Some dilated loops with stool
   - [**10-2**] CXR: ? RLL infiltrate early
   Assessment and Plan
   Patient is a 60 year old female with past medical history of autoimmune
   disease, who presented with seizure, found to have Listeria bacteremia,
   meningitis, and likely Listeria brain abscess, status-post
   tracheostomy, doing well on trach mask, with marked improvement in
   mental status overnight.
   .
   #) Respiratory failure: Patient intubated for airway protection in
   setting of altered mental status, and underwent tracheostomy on
   [**2124-9-22**]. She has done well on trach mask for over several days now,
   with a re-assuring ABGs. No significant secretions to suggest
   pneumonia. Continuing to wean FiO2, currently at 35%. She had had
   episode of hemoptysis, however bronchoscopy and CTA re-assuring;
   bleeding was likely due to small site of erosion.
   - Wean FiO2 as tolerated
   - PMV today
   .
   #) Listeria bacteremia and meningitis/encephalitis/abscess and
   resultant mental status:
   Overnight with marked improvement in mental status
able to follow some
   commands, attempted to speak. Based on MRI yesterday, there is concern
   that patient may have another process such as neoplasm or fungal
   infection, or endocarditis that continues to seed her CSF.
   Listeria noted in blood and CSF cultures from [**9-15**] and [**9-16**]
   respectively. Her recently immuno-suppressed state secondary to
   treatment for auto-immune hepatitis may have pre-disposed her to
   infection. Serial head CT
s have been stable. TTE and TEE completed as
   noted (abnormal, but no definite abscess or vegetation. EEG was not
   suggestive of convulsive status, however there is concern for
   intermittent seizure activity (twitching of right cheek,
   opening/closing of mouth, moving of head).
   - Ampicillin and gentimicin were started on [**9-17**]. Following levels,
   adjusted gent dosing to 120 mg Q 12. (Today is day 15). Length of
   treatment (given question of abscess, Bacteremia, meningitis),
   anticipate several weeks ([**1-24**] or more), will depend on results of CSF
   culture results, final read of MRI, ID and neurology input.
   - Appreciate ID and neurology input.
   - LP completed [**9-28**], supports picture of clearing infection (decreased
   WBC, no organisms), especially given improvement in fever curve and
   remainder of hemodynamics. Sent for fungal, AFB, modified cultures (to
   exclude Nocardia). Cryptococcal antigen negative. Monitoring culture
   data which is NGTD.
   - Flow cytometry of CSF [**Month/Day (4) 1327**], MR [**First Name (Titles) 1328**] [**Last Name (Titles) 1327**].
   - Given question of fungal infection in setting of new lesions and
   elevated beta-glucan, initiated empiric anti-fungal coverage, sent off
   fungal cultures. Neurosurgery re-consulted to discuss sampling of brain
   lesions. Cardiology also involved as first TEE was not entirely normal,
   to re-evaluate if patient has vegetation or abscess that could account
   for findings (as in this event, would less likely need brain biopsy).
   Neurology to see patient over the weekend and assist with further
   prognosis, work-up, etc. Input greatly appreciated.
   - Aprpeciate hematology assistance with possible marrow biopsy to
   further evaluate for possible fungal infection in setting of (+)
   B-glucan.
   - Keppra 1500 mg [**Hospital1 **] for seizure prophylaxis, no seizure activity noted
   on EEG.
   - PT/OT consults over next 1-2 days.
   - Speech consult for PMV.
   .
   #) Pancytopenia: Ongoing issue. WBC improved, Hct down. Patient has
   been off of all immunosuppressive agents for over two weeks, as these
   were felt to be the most likely etiology (other possibilities included
   stress of acute infection, viral process). Labs and smear have not been
   consistent with hemolysis.
   Given that immunosuppressive agents could mask a hematologic
   malignancy, which is now more evident after they have been held (LDH
   also elevated), and given concern for possible CNS lymphoma, hematology
   was re-consulted to comment on utility of bone marrow biopsy for
   further evaluation, also in setting of question of fungal infection.
   - SPEP [**Hospital1 1327**], retic count demonstrated marrow is responding
   - Appreciate hematology assistance, flow cytometry sent, will continue
   to consider bone marrow biopsy.
   - Continue to monitor [**Hospital1 1174**], transfuse if HCT <21-22 or symptoms.
   - TPMT returned positive, consistent with heterozyogous state, which
   suggests increased risk of myelosuppression with Imuran treatment.
   - Transfuse today if Hct < 21
   .
   #) Elevated Coagulation Studies: Stable. Her elevated INR had been felt
   to be secondary to nutritional deficiencies and liver disease. Per
   hematology and laboratory values, DIC appears to be less likely, but
   still will continue to monitor for this possibility.
   - Appreciate hematology assistance. Pneumoboots for now for DVT
   prophylaxis, then likely [**Hospital1 **] heparin.
   .
   #) Elevated LFTs: Overall stable, some slightly up today. RUQ
   consistent with liver disease, no other concerning pathology (no ductal
   dilation or gall bladder abnormalities noted. Amylase and lipase have
   been trending downward, AST/ALT WNL currently. Records have been
   obtained and are present in back of patient
s chart from work up in
   [**State 951**]. Many attempts have been made to obtain records from [**Doctor Last Name 918**] in
   [**Location (un) 841**], CA, where patient was admitted with what sounds like near
   fulminant hepatic failure (T. Bili of 23, transaminases in thousands).
   - Will continue to monitor [**Last Name (LF) 1174**], [**First Name3 (LF) **] need to involve liver team if
   laboratory values continue to worsen.
      .
   #) Acinetobacter in sputum: No consolidation, leukocytosis, or
   significant secretions to suggest true infection. Fevers have resolved.
   No PMNs upon bronchial [**Last Name (LF) 1119**], [**First Name3 (LF) **] makes culture data difficult to
   interpret, but suspect colonization.
   - Contact precautions.
   .
   #) Dilated loops bowel: Had large BM yesterday, abd soft but distended,
   non-tender.
   - Aggressive bowel regimen
   - Follow with daily KUB, serial exams
   .
   #) ? RLL infiltrate: Seen on CXR today, possible early PNA. Pt has been
   Afebrile, normal WBC but 6% bands today.
   - If febrile, or clinical deterioration, start abx for HAP
   - Sputum cx
   .
   #) FEN: Again, will attempt to gently diurese today given extensive
   peripheral edema as tolerated by BP and heart rate.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2124-10-2**] 03:43 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-28**] 12:15 PM
   Prophylaxis:
   DVT: heparin, boots
   Stress ulcer:  PPI, TF
   VAP:  HOB, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2124-10-02 09:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Mental Status continues to improve
   Repaet TEE pending to Check for vege
   Lytes repeated this AM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ambisome - [**2124-10-1**] 11:00 PM
   Ampicillin - [**2124-10-2**] 02:17 AM
   Gentamicin - [**2124-10-2**] 05:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2124-10-2**] 08:15 AM
   Other medications:
   bisacodyl, colace, lactulose, keppra, lanzoprazole, albuterol nebs
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-10-2**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.8
   HR: 102 (96 - 113) bpm
   BP: 117/69(81) {100/42(59) - 125/77(87)} mmHg
   RR: 20 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.3 kg (admission): 58.8 kg
   Height: 65 Inch
             Total In:
                                                                  3,409 mL
                                                                  1,254 mL
   PO:
             TF:
                                                                  1,444 mL
                                                                    532 mL
   IVF:
                                                                  1,335 mL
                                                                    442 mL
   Blood products:
   Total out:
                                                                  3,350 mL
                                                                    520 mL
   Urine:
                                                                  3,350 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     59 mL
                                                                    735 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, T-piece
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   7.5 g/dL
   69 K/uL
   115 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.6 mEq/L
   11 mg/dL
   111 mEq/L
   138 mEq/L
   21.8 %
   4.1 K/uL
        [image002.jpg]
                             [**2124-9-27**]  04:55 AM
                             [**2124-9-27**]  06:31 PM
                             [**2124-9-28**]  03:49 AM
                             [**2124-9-28**]  04:38 AM
                            [**2124-9-29**]  04:03 AM
                            [**2124-9-30**]  03:44 AM
                            [**2124-9-30**]  03:55 AM
                            [**2124-9-30**]  03:25 PM
                            [**2124-10-1**]  04:32 AM
                            [**2124-10-2**]  05:10 AM
   WBC
   3.2
   2.6
   2.6
   3.1
   4.1
   Hct
   23.6
   22.7
   22.2
   24.5
   21.8
   Plt
   94
   84
   71
   66
   69
   Cr
   0.7
   0.6
   0.5
   0.4
   0.5
   0.4
   TCO2
   21
   21
   23
   26
   Glucose
   108
   126
   143
   123
   120
   115
   Other labs: PT / PTT / INR:15.2/34.1/1.3, CK / CKMB /
   Troponin-T:36//<0.01, ALT / AST:37/54, Alk Phos / T Bili:424/1.2,
   Amylase / Lipase:66/64, Differential-Neuts:57.0 %, Band:6.0 %,
   Lymph:27.0 %, Mono:10.0 %, Eos:0.0 %, D-dimer:1729 ng/mL,
   Fibrinogen:211 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:1.6 g/dL, LDH:375
   IU/L, Ca++:6.4 mg/dL, Mg++:2.2 mg/dL, PO4:1.9 mg/dL
   Imaging: KUB - non-specific gas pattern; impacted stool
   CXR - ? R lower lobe infiltrate
   Microbiology: BC's [**2128-9-30**] - pending
   Older cultures - NGTD
   Assessment and Plan
 SUBARACHNOID HEMORRHAGE (SAH)
 MENINGITIS, BACTERIAL
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ANEMIA, HEMOLYTIC
 SUBARACHNOID HEMORRHAGE (SAH)
   Patient is a 60 year old female with past medical history of autoimmune
   disease, who presented with seizure, found to have Listeria bacteremia,
   meningitis, and likely Listeria brain abscess, status-post
   tracheostomy, doing well on trach mask, with hemoptysis yesterday.
   .
   #) Respiratory failure: Patient intubated for airway protection in
   setting of altered mental status, and underwent tracheostomy on
   [**2124-9-22**]. Will fit for PM valve today. Doing well on trach mask.
   .
   #) Hemoptysis:  No further bleeding noted.
   #) Listeria bacteremia and meningitis/encephalitis/abscess and
   resultant mental status: Increasingly alert.
    - Ampicillin and gentimicin were started on [**9-17**]. Following levels,
   adjusted gent dosing to 120 mg Q 12. (Today is day 13). Length of
   treatment (given question of abscess, Bacteremia, meningitis),
   anticipate several weeks ([**1-24**] or more), will depend on results of CSF
   culture results, final read of MRI, ID and neurology input.
   - LP completed [**9-28**], supports picture of clearing infection (decreased
   WBC, no organisms), especially given improvement in fever curve and
   remainder of hemodynamics. Sent for fungal, AFB, modified cultures (to
   exclude Nocardia). Cryptococcal antigen negative. Monitoring culture
   data which is NGTD.
   - Fungal etiology might be responsible for frontal head mass (given
   that all indicators of infection have improved, and her head masses
   have no worsened without treatment for fungal infection). Started on
   Ambisome
   #) Seizure: Again short episode of right cheek twitching noted this
   morning, which could be monoclonous. Continuous EEG monitoring for over
   24 hours did not reveal any seizure activity. This would be consistent
   in distribution given that her mass (presumed abscess) is in the left
   frontal area. It is difficult to say if these activities have been
   seizures, and they  have stopped after administration of ativan.
   - Increased Keppra to 1500 mg [**Hospital1 **], changed over to PO.
   #) Pancytopenia: All cell counts stable today. WBC increasing. Given
   that patient has been off of all immunosuppressive agents for over two
   weeks, as these were felt to be the most likely etiology (other
   possibilities included stress of acute infection, viral process).
    Hematology was re-consulted to comment on utility of bone marrow
   biopsy for further evaluation and ? of CNS lymphoma
   - Sending SPEP, retic count demonstrated marrow is responding
   - Appreciate hematology assistance, flow cytometry send, will continue
   to consider bone marrow biopsy.
   - Continue to monitor [**Hospital1 1174**], transfuse if HCT <21-22 or symptoms.
   - TPMT returned positive, consistent with heterozyogous state, which
   suggests increased risk of myelosuppression with Imuran treatment.
   #) Elevated Coagulation Studies: Stable. Her elevated INR had been felt
   to be secondary to nutritional deficiencies and liver disease. Per
   hematology and laboratory values, DIC appears to be less likely, but
   still will continue to monitor for this possibility.
    Pneumoboots for now for DVT prophylaxis, then likely [**Hospital1 **] heparin.
   #) Elevated LFTs: Overall stable. RUQ consistent with liver disease, no
   other concerning pathology (no ductal dilation or gall bladder
   abnormalities noted. Amylase and lipase have been trending downward,
   AST/ALT WNL currently. Records have been obtained and are present in
   back of patient
s chart from work up in [**State 951**]. Many attempts have been
   made to obtain records from [**Doctor Last Name 918**] in [**Location (un) 841**], CA, where patient was
   admitted with what sounds like near fulminant hepatic failure (T. Bili
   of 23, transaminases in thousands).
   - Will continue to monitor [**Last Name (LF) 1174**], [**First Name3 (LF) **] need to involve liver team if
   laboratory values continue to worsen.
   #) Acinetobacter in sputum: No consolidation, leukocytosis, or
   significant secretions to suggest true infection. Fevers have resolved.
   No PMNs upon bronchial [**Last Name (LF) 1119**], [**First Name3 (LF) **] makes culture data difficult to
   interpret, but suspect colonization.
   - Contact precautions.
   #) Positive beta-glucan.  [**Month (only) 11**] be indicator of fungal infection,
   particularly given recent immunosuppression, however as noted above,
   unclear what to make of positive results given that imaging has
   remained stable and all other indicators of infection have improved.
   Have started antifungal coverage in light of new lesions on MR and +
   beta-glucan
   #) FEN: Again, will attempt to gently diurese today given extensive
   peripheral edema as tolerated by BP.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2124-10-2**] 03:43 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2124-9-28**] 12:15 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2124-10-03 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2124-10-2**] 10:53 AM
   right arm u/s
    -discontinued ambisome per ID recs
   - Speech consult to get speaking valve early tomorrow
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2124-10-2**] 05:00 AM
   Ampicillin - [**2124-10-3**] 06:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2124-10-2**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-10-3**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.1
C (97
   HR: 102 (94 - 114) bpm
   BP: 101/53(64) {99/43(58) - 129/72(84)} mmHg
   RR: 21 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 57.3 kg (admission): 58.8 kg
   Height: 65 Inch
             Total In:
                                                                  2,656 mL
                                                                  1,143 mL
   PO:
             TF:
                                                                  1,442 mL
                                                                    452 mL
   IVF:
                                                                    693 mL
                                                                    451 mL
   Blood products:
   Total out:
                                                                  2,965 mL
                                                                    590 mL
   Urine:
                                                                  2,965 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -309 mL
                                                                    553 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, T-piece
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Gen: Awake, follows commands:
   HEENT: PERRL
   Neck: trach in place
   Lungs: Coarse BS bilaterally
   Heart: s1s2 RRR
   Abd: soft, distended, non-tender
   Ext: + peripheral edema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   91 K/uL
   8.3 g/dL
   129 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.3 mEq/L
   10 mg/dL
   111 mEq/L
   141 mEq/L
   24.6 %
   4.4 K/uL
        [image002.jpg]
                             [**2124-9-27**]  06:31 PM
                             [**2124-9-28**]  03:49 AM
                             [**2124-9-28**]  04:38 AM
                            [**2124-9-29**]  04:03 AM
                            [**2124-9-30**]  03:44 AM
                            [**2124-9-30**]  03:55 AM
                            [**2124-9-30**]  03:25 PM
                            [**2124-10-1**]  04:32 AM
                            [**2124-10-2**]  05:10 AM
                            [**2124-10-2**]  11:39 PM
   WBC
   3.2
   2.6
   2.6
   3.1
   4.1
   4.4
   Hct
   23.6
   22.7
   22.2
   24.5
   21.8
   24.6
   Plt
   94
   84
   71
   66
   69
   91
   Cr
   0.7
   0.6
   0.5
   0.4
   0.5
   0.4
   0.5
   TCO2
   21
   23
   26
   Glucose
   108
   126
   143
   123
   120
   115
   129
   Other labs: PT / PTT / INR:14.3/34.8/1.2, CK / CKMB /
   Troponin-T:36//<0.01, ALT / AST:51/74, Alk Phos / T Bili:620/1.2,
   Amylase / Lipase:66/64, Differential-Neuts:57.3 %, Band:6.0 %,
   Lymph:35.4 %, Mono:7.0 %, Eos:0.0 %, D-dimer:1729 ng/mL, Fibrinogen:211
   mg/dL, Lactic Acid:1.6 mmol/L, Albumin:1.9 g/dL, LDH:392 IU/L, Ca++:7.5
   mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Patient is a 60 year old female with past medical history of autoimmune
   disease, who presented with seizure, found to have Listeria bacteremia,
   meningitis, and likely Listeria brain abscess, status-post
   tracheostomy, doing well on trach mask, with marked improvement in
   mental status overnight.
   .
   #) Respiratory failure: Patient intubated for airway protection in
   setting of altered mental status, and underwent tracheostomy on
   [**2124-9-22**]. She has done well on trach mask for several days now, with
   re-assuring ABGs. No significant secretions to suggest pneumonia.
   Continuing to wean FiO2, currently at 35%. She had had episode of
   hemoptysis, however bronchoscopy and CTA re-assuring; bleeding was
   likely due to small site of erosion.
   - Wean FiO2 as tolerated
   .
   #) Listeria bacteremia and meningitis/encephalitis/abscess and
   resultant mental status:
   Continue improvement in mental status. Still evaluating for neoplasm,
   but less concerned for fungal infection given improved CSF, decreased
   fever curve and unchanged head imaging. Awaiting repeat TEE to evaluate
   for endocarditis/abscess.
   - Continue  Ampicillin and gentimicin (started on [**9-17**]).
   - ID recs; F/U cultures
   - Neuro recs
   - Continue heme/onc work-up as below
   - Keppra 1500 mg [**Hospital1 **] for seizure prophylaxis, no seizure activity noted
   on EEG.
   - PT/OT consults over next 1-2 days.
   - Speech consult for PMV.
   .
   #) Pancytopenia: Ongoing issue. WBC improved, Hct down. Patient has
   been off of all immunosuppressive agents for over two weeks, as these
   were felt to be the most likely etiology (other possibilities included
   stress of acute infection, viral process). Labs and smear have not been
   consistent with hemolysis. - TPMT returned positive, consistent with
   heterozyogous state, which suggests increased risk of myelosuppression
   with Imuran treatment. Ongoing concern for malignancy and heme-onc
   reconsulted.
   - F/U cytometry; will continue to consider bone marrow biopsy.
   - Continue to monitor [**Hospital1 1174**], transfuse if HCT <21-22 or symptoms.
   .
   #) Elevated Coagulation Studies: Stable. Her elevated INR had been felt
   to be secondary to nutritional deficiencies and liver disease. Per
   hematology and laboratory values, DIC appears to be less likely, but
   still will continue to monitor for this possibility.
   - Appreciate hematology assistance. Pneumoboots for now for DVT
   prophylaxis, then likely [**Hospital1 **] heparin.
   .
   #) Elevated LFTs: Overall stable, some slightly up today. RUQ
   consistent with liver disease, no other concerning pathology (no ductal
   dilation or gall bladder abnormalities noted. Amylase and lipase have
   been trending downward, AST/ALT WNL currently. Records have been
   obtained and are present in back of patient
s chart from work up in
   [**State 951**]. Many attempts have been made to obtain records from [**Doctor Last Name 918**] in
   [**Location (un) 841**], CA, where patient was admitted with what sounds like near
   fulminant hepatic failure (T. Bili of 23, transaminases in thousands).
   - Will continue to monitor [**Last Name (LF) 1174**], [**First Name3 (LF) **] need to involve liver team if
   laboratory values continue to worsen.
      .
   #) Acinetobacter in sputum: No consolidation, leukocytosis, or
   significant secretions to suggest true infection. Fevers have resolved.
   No PMNs upon bronchial [**Last Name (LF) 1119**], [**First Name3 (LF) **] makes culture data difficult to
   interpret, but suspect colonization.
   - Contact precautions.
   .
   #) ? RLL infiltrate: Seen on CXR yesterday, now with 2+ GNRs despite
   Gentamicin.
   - Will start Zosyn
   - F/U speciation of sputum culture
   .
   #) FEN: Again, will attempt to gently diurese today given extensive
   peripheral edema as tolerated by BP and heart rate.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2124-10-2**] 11:42 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-28**] 12:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-10-04 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2124-10-3**] 12:16 PM
     preliminary read is negative for valve vegetation of abscess
 EKG - At [**2124-10-3**] 04:30 PM
   Yesterday had limited run of SVT, narrow and regular at around 160 with
   acute onset. Resolved with suction catheter use.
   - Gent peak was 4.9 (goal [**7-30**]) so increased to 160 q12 via pharm recs
   - Awaiting Flow cytometry, considering bone marrow for anemia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ambisome - [**2124-10-1**] 11:00 PM
   Gentamicin - [**2124-10-3**] 06:30 PM
   Ampicillin - [**2124-10-4**] 06:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2124-10-3**] 10:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Eyes: No(t)  Blurry vision
   Respiratory: No(t) Dyspnea
   Flowsheet Data as of  [**2124-10-4**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.9
C (96.6
   HR: 76 (76 - 162) bpm
   BP: 109/54(65) {85/44(55) - 116/80(92)} mmHg
   RR: 15 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.3 kg (admission): 58.8 kg
   Height: 65 Inch
             Total In:
                                                                  2,841 mL
                                                                    412 mL
   PO:
             TF:
                                                                  1,197 mL
                                                                     60 mL
   IVF:
                                                                  1,284 mL
                                                                    352 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                    720 mL
   Urine:
                                                                  2,500 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    341 mL
                                                                   -308 mL
   Respiratory support
   O2 Delivery Device: T-piece
   Ventilator mode: CMV/ASSIST
   Vt (Set): 420 (420 - 420) mL
   RR (Set): 20
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: No(t) No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, Limited movement
   of right side, left side can move fingers and toes in small amount. EOM
   intact, follows commands.
   Labs / Radiology
   91 K/uL
   6.5 g/dL
   98 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.3 mEq/L
   9 mg/dL
   112 mEq/L
   141 mEq/L
   19.2 %
   3.4 K/uL
        [image002.jpg]
                             [**2124-9-28**]  04:38 AM
                            [**2124-9-29**]  04:03 AM
                            [**2124-9-30**]  03:44 AM
                            [**2124-9-30**]  03:55 AM
                            [**2124-9-30**]  03:25 PM
                            [**2124-10-1**]  04:32 AM
                            [**2124-10-2**]  05:10 AM
                            [**2124-10-2**]  11:39 PM
                            [**2124-10-3**]  11:51 AM
                            [**2124-10-4**]  03:06 AM
   WBC
   2.6
   2.6
   3.1
   4.1
   4.4
   4.3
   3.4
   Hct
   22.7
   22.2
   24.5
   21.8
   24.6
   25.0
   19.2
   Plt
   84
   71
   66
   69
   91
   99
   91
   Cr
   0.6
   0.5
   0.4
   0.5
   0.4
   0.5
   0.4
   0.5
   TCO2
   23
   26
   Glucose
   126
   143
   123
   120
   115
   129
   105
   98
   Other labs: PT / PTT / INR:14.6/35.8/1.3, CK / CKMB /
   Troponin-T:36//<0.01, ALT / AST:50/69, Alk Phos / T Bili:606/1.1,
   Amylase / Lipase:272/651, Differential-Neuts:57.3 %, Band:6.0 %,
   Lymph:35.4 %, Mono:7.0 %, Eos:0.0 %, D-dimer:1729 ng/mL, Fibrinogen:211
   mg/dL, Lactic Acid:1.6 mmol/L, Albumin:1.7 g/dL, LDH:392 IU/L, Ca++:7.2
   mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Imaging: CXR:
   Liver U/S:
   1. Heterogeneous liver in the setting of hepatitis; may represent
   fibrosis and/or cirrhosis. 2. Moderate ascites.3. Small bilateral
   pleural effusions. 4. Gallbladder sludge, with mild distention and wall
   thickening, which may be
   related to underlying liver disease. No evidence of biliary tract
   abnormalities.5. Patent portal vein.
   Microbiology: [**10-2**] sputum:
    2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   Assessment and Plan
   Patient is a 60 year old female with past medical history of autoimmune
   disease, who presented with seizure, found to have Listeria bacteremia,
   meningitis, and likely Listeria brain abscess, status-post
   tracheostomy, doing well on trach mask, with marked improvement in
   mental status overnight.
   .
   #) Respiratory failure: Patient intubated for airway protection in
   setting of altered mental status, and underwent tracheostomy on
   [**2124-9-22**]. She has done well on trach mask for several days now, with
   re-assuring ABGs. No significant secretions to suggest pneumonia.
   Continuing to wean FiO2, currently at 35%. She had had episode of
   hemoptysis, however bronchoscopy and CTA re-assuring; bleeding was
   likely due to small site of erosion.
   GNR in Sputum f/u CXR, await speciation
   - Wean FiO2 as tolerated
   .
   #) Listeria bacteremia and meningitis/encephalitis/abscess and
   resultant mental status:
   Continue improvement in mental status. Still evaluating for neoplasm,
   but less concerned for fungal infection given improved CSF, decreased
   fever curve and unchanged head imaging.
   - Continue  Ampicillin and gentimicin (started on [**9-17**]).
   - ID recs; F/U cultures
   - Neuro recs
   - Keppra 1500 mg [**Hospital1 **] for seizure prophylaxis, no seizure activity noted
   on EEG.
   .
   #) Pancytopenia: Ongoing issue. WBC improved, Hct down. Patient has
   been off of all immunosuppressive agents for over two weeks, as these
   were felt to be the most likely etiology (other possibilities included
   stress of acute infection, viral process). Labs and smear have not been
   consistent with hemolysis. - TPMT returned positive, consistent with
   heterozyogous state, which suggests increased risk of myelosuppression
   with Imuran treatment. Ongoing concern for malignancy and heme-onc
   reconsulted.
   - F/U cytometry; will continue to consider bone marrow biopsy.
   - Continue to monitor trend, transfuse if HCT <21-22 or symptoms.
   #)?Aortic Valve Abscess: TEE negative
   .
   #) Elevated Coagulation Studies: Stable. Her elevated INR had been felt
   to be secondary to nutritional deficiencies and liver disease. Per
   hematology and laboratory values, DIC appears to be less likely, but
   still will continue to monitor for this possibility.
   - Appreciate hematology assistance. Pneumoboots for now for DVT
   prophylaxis, then likely [**Hospital1 **] heparin.
   .
   #) Elevated LFTs: Slight trending up. Likely consistent with known
   liver disease, but alk phos is disproportionately high. Records have
   been obtained and are present in back of patient
s chart from work up
   in [**State 951**]. Many attempts have been made to obtain records from [**Doctor Last Name 918**]
   in [**Location (un) 841**], CA, where patient was admitted with what sounds like near
   fulminant hepatic failure (T. Bili of 23, transaminases in thousands).
   - Will order RUQ US today; Consider hepatology consult
   - Will also order GGT to determine if alk phos is from biliary system
      .
   #) Acinetobacter in sputum: No consolidation, leukocytosis, or
   significant secretions to suggest true infection. Fevers have resolved.
   No PMNs upon bronchial [**Last Name (LF) 1119**], [**First Name3 (LF) **] makes culture data difficult to
   interpret, but suspect colonization.
   - Contact precautions.
   .
   #) ? RLL infiltrate: Seen on CXR yesterday, now with 2+ GNRs despite
   Gentamicin. No clinical signs of PNA (no sputum, no leukocytosis, no
   increase in FiO2)
   - F/U speciation of sputum culture. Will hold on abx for now
   .
   #) FEN: Again, will attempt to gently diurese today given extensive
   peripheral edema as tolerated by BP and heart rate.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-28**] 12:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: